2189-01-27 07:56:00 Physician Resident Progress Note
Chief Complaint: transfer for ERCP, ? cholestasis
   24 Hour Events:
 MULTI LUMEN - START [**2189-1-26**] 10:49 PM
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   History obtained from [**Hospital 15**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   denies pain
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea
   Flowsheet Data as of  [**2189-1-27**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**91**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 109 (105 - 112) bpm
   BP: 114/51(66) {94/41(55) - 122/56(70)} mmHg
   RR: 21 (16 - 24) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 63 Inch
             Total In:
             169 mL
   PO:
             TF:
   IVF:
   169 mL
   Blood products:
   Total out:
                                                                    225 mL
                                                                    190 mL
   Urine:
                                                                    225 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -225 mL
                                                                    -21 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.38/35/71/20/-3
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), no m,r,g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   anteriorly)
   Abdominal: Bowel sounds present, Tender: RUQ, Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Oriented (to): x 1 (hospital), Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   184 K/uL
   9.8 g/dL
   116 mg/dL
   1.3 mg/dL
   20 mEq/L
   4.2 mEq/L
   35 mg/dL
   112 mEq/L
   140 mEq/L
   30.8 %
   15.6 K/uL
        [image002.jpg]
                             [**2189-1-26**]  11:27 PM
                             [**2189-1-27**]  05:30 AM
   WBC
   15.6
   Hct
   30.8
   Plt
   184
   Cr
   1.3
   TCO2
   22
   Glucose
   116
   Other labs: PT / PTT / INR:12.7/32.2/1.1, ALT / AST:34/34, Alk Phos / T
   Bili:467/3.5, Lactic Acid:1.7 mmol/L, Albumin:1.8 g/dL, Ca++:8.0 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   Assessment and Plan
   A/P:  Pt is a 75 yo female with history of CHF, COPD, DM2,
   schizophrenia who presented with gram-negative sepsis, requiring
   vasopressors for 48 hours, now found to have increasing LFTs in a
   cholestatic pattern.
   .
   # Cholestatic LFT pattern, coagulopathy:  RUQ shows sludge with
   possible mass, stone with some element of chronicity.  Cholangitis may
   be the source of E. coli; however, she inconsistently has RUQ
   tenderness on exam.  She has also improved dramatically in the last 5
   days despite no drainage of the biliary system.  No evidence of
   cholangitis
   - monitor LFTs, coags
   - plan for ERCP this morning, will f/u recs re: additional imaging;
   appreciate input
   .
   # Gram-negative sepsis:  Source includes UTI v. cholangitis as above.
   Urine and blood cultures grew E. coli sensitive to CTX, ceftaz, gent,
   zosyn, tobra, bactrim, and ertapenem.  Currently hemodynamically stable
   off of pressors for 48 hours.
   - cont CTX for E. coli
   - broaden back to vanc/zosyn if decompensates
   - IVF boluses to maintain MAP of >60, monitor pulmonary status
   carefully with each bolus
   - restart levophed if needed, though currently hemodynamically stable
   - d/c
d stress dose steroids
   .
   # Coagulopathy:  Likely related the liver dysfunction.  Interestingly,
   her coagulopathy responded to vitamin K.
   - cont. to monitor coags
   .
   # Hypoxia:  Pt in decompensated heart failure at OSH.  Also has history
   of COPD on multiple inhalers at home.  On exam, pt has bibasilar
   crackles.
   - obtain CXR
   .
   # MAT:  EKG here shows ST with PACs.
   - treat underlying infection
   - IVF boluses as needed
   .
   # Volume status:  Pt aggressively fluid resuscitated in the setting of
   sepsis.  Pt is now requiring 3.5 L NC with coarse bibasilar crackles on
   exam.
   - obtain CXR
   - monitor pulmonary status after all IVF boluses as pt is [**Name (NI) 951**]
   .
   # Depressed mental status:  This is likely delirium on dementia.
   Baseline is unclear.  This is likely related to infectious process.  No
   hypercarbia on ABG.  Per report, this is not patient
s baseline.
   - treat underlying infectious process
   - hold neurontin for now given mental status
   - monitor mental status, low threshold to perform head CT given recent
   INR of 6
   -  will check ammonia level
   .
   # Demand ischemia:  Trop I had trended down at OSH.
   .
   # ARF:  Cr peaked at 2 at OSH, currently trending down.
   - cont. to monitor Cr
   - renally dose medications, avoid nephrotoxins
   .
   # COPD:
   - serial CXR
   - nebulizers prn
   - cont. Advair
   .
   # Schizophrenia:
   - restart home antipsychotics
   - hold neurontin for now given mental status
   .
   #  DM2
   - insulin SS
   .
   #  Gastritis/PUD
   - cont. protonix
   .
   # FEN:  IVF boluses as above, monitor electrolytes, NPO except for meds
   # PPx:  pneumoboots and SC heparin, bowel regimen
   .
   Access:  L subclavian CVL from OSH (PIVs)--needs to be removed within
   24hours, plan for PICC today if no PIV can be placed
   Code:  DNR/DNI (form in OSH records)
   Contact:  Daughter [**Name (NI) **] (HCP) [**Telephone/Fax (1) 12841**] (unable to reach)
   .
   .
   .
   [**First Name11 (Name Pattern1) 815**] [**Last Name (NamePattern1) 12835**], MD
   [**Pager number 12836**]
   ICU Care
 see above
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2189-1-26**] 10:49 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2189-01-27 10:11:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains somnulant, but arrousable to voice, mumbling answers, but
   appears appropriate.
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2189-1-27**] 10:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**91**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 108 (105 - 112) bpm
   BP: 115/49(65) {94/41(55) - 122/56(70)} mmHg
   RR: 23 (16 - 24) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 63 Inch
             Total In:
             187 mL
   PO:
             TF:
   IVF:
   187 mL
   Blood products:
   Total out:
                                                                    225 mL
                                                                    300 mL
   Urine:
                                                                    225 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -225 mL
                                                                   -113 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.38/35/71/20/-3
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema, conjunctival icterus
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese, Well-healed midline surgical scar with reducible
   hernia
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , Jaundice, Palmar erythema
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal, Very somnulant, but arrousable to voice
   Labs / Radiology
   9.8 g/dL
   184 K/uL
   116 mg/dL
   1.3 mg/dL
   20 mEq/L
   4.2 mEq/L
   35 mg/dL
   112 mEq/L
   140 mEq/L
   30.8 %
   15.6 K/uL
        [image002.jpg]
                             [**2189-1-26**]  11:27 PM
                             [**2189-1-27**]  05:30 AM
   WBC
   15.6
   Hct
   30.8
   Plt
   184
   Cr
   1.3
   TCO2
   22
   Glucose
   116
   Other labs: PT / PTT / INR:12.7/32.2/1.1, ALT / AST:34/34, Alk Phos / T
   Bili:467/3.5, Lactic Acid:1.7 mmol/L, Albumin:1.8 g/dL, Ca++:8.0 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   75 yof CHF, COPD, NIDDM, schizophrenia now with GNR sepsis, and
   increasing LFTs.
   SEPSIS -- E. coli isolated in blood.  Possible source includes urinary
   vs. hepatobiliary (possible cholangitis).  Responding to currentl level
   of care.
   E.COli BACTEREMIA -- urinary source vs. hepatobiliary.  Continue
   antimicrobials.  Monitor blood cultures.
   ABNORMAL LFTS -- Cholestatic LFT pattern.  RUQ US shows sludge with
   possible mass vs. biliary stone -- may be element of chronicity.
   Cholangitis may be the source of E. col.  Consider abd CT.  Awaiting
   ERCP per service.  Monitor LFTs.
   ALTERED MENTAL STATUS -- possible toxic-metabolic or related to
   medications.  Need to confirm baseline mental status with family.
   PULMONARY HTN -- mild as determined by cardiac echo
   COAGULOPATHY --Likely related to underlying liver dysfunction.
   Interestingly, her coagulopathy responded to vitamin K.
   - cont. to monitor coags
   TACHYCARDIA -- MAT by ECG.  Monitor.
   FLUIDS --
   COPD --
   # Hypoxia:  Pt in decompensated heart failure at OSH.  Also has history
   of COPD on multiple inhalers at home.  On exam, pt has bibasilar
   crackles.
   - obtain CXR
   # MAT:  EKG here shows ST with PACs.
   - treat underlying infection
   - IVF boluses as needed
   # Volume status:  Pt aggressively fluid resuscitated in the setting of
   sepsis.  Pt is now requiring 3.5 L NC with coarse bibasilar crackles on
   exam.
   - obtain CXR
   - monitor pulmonary status after all IVF boluses as pt is [**Name (NI) 951**]
   # Depressed mental status:  This is likely delirium on dementia.
   Baseline is unclear.  This is likely related to infectious process.  No
   hypercarbia on ABG.
   - treat underlying infectious process
   - hold neurontin for now given mental status
   - monitor mental status, low threshold to perform head CT given recent
   INR of 6.
   # Demand ischemia:  Trop I had trended down at OSH.
   # ARF:  Cr peaked at 2 at OSH, currently trending down.
   - cont. to monitor Cr
   - renally dose medications, avoid nephrotoxins
   # COPD:
   - obtain CXR
   - nebulizers prn
   - cont. Advair
   # Schizophrenia:
   - restart home antipsychotics
   - hold neurontin for now given mental status
   #  DM2
   - insulin SS
   #  Gastritis/PUD
   - cont. protonix
   # FEN:  IVF boluses as above, monitor electrolytes, NPO except for meds
   # PPx:  pneumoboots given coagulopathy, bowel re
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2189-1-26**] 10:49 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2189-01-28 05:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Went to ERCP they placed a stent, saw a 2cm stone they could not
   retrieve, sent her back intubated
   - looked uncomfortable on the vent in the afternoon, gas showed CO2
   retention, went up on pressure support with better tidal volumes.
   - A-line placed
   - borderline low BPs received several fluid boluses with moderate
   effect
   - broadened her out to cover esbl with [**Last Name (un) **], her line with vanco
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diltiazem - [**2189-1-27**] 06:00 PM
   Heparin Sodium (Prophylaxis) - [**2189-1-27**] 08:22 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-1-28**] 05:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**91**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.3
C (97.4
   HR: 80 (80 - 147) bpm
   BP: 86/45(58) {80/43(57) - 102/55(66)} mmHg
   RR: 18 (9 - 35) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  4,230 mL
                                                                  1,113 mL
   PO:
             TF:
   IVF:
                                                                  4,230 mL
                                                                  1,053 mL
   Blood products:
   Total out:
                                                                    445 mL
                                                                     10 mL
   Urine:
                                                                    445 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,785 mL
                                                                  1,103 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 500 (450 - 500) mL
   Vt (Spontaneous): 382 (310 - 400) mL
   PS : 12 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 48
   PIP: 26 cmH2O
   Plateau: 19 cmH2O
   SpO2: 99%
   ABG: 7.31/38/61/19/-6
   Ve: 9.3 L/min
   PaO2 / FiO2: 153
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   130 K/uL
   8.8 g/dL
   78 mg/dL
   1.6 mg/dL
   19 mEq/L
   4.3 mEq/L
   36 mg/dL
   115 mEq/L
   141 mEq/L
   29.3 %
   20.3 K/uL
        [image002.jpg]
                             [**2189-1-26**]  11:27 PM
                             [**2189-1-27**]  05:30 AM
                             [**2189-1-27**]  07:52 PM
                             [**2189-1-27**]  11:01 PM
                             [**2189-1-28**]  12:12 AM
                             [**2189-1-28**]  03:03 AM
                             [**2189-1-28**]  03:36 AM
   WBC
   15.6
   20.3
   Hct
   30.8
   29.3
   Plt
   184
   130
   Cr
   1.3
   1.4
   1.6
   TCO2
   22
   23
   22
   20
   Glucose
   116
   66
   78
   Other labs: PT / PTT / INR:12.0/37.8/1.0, ALT / AST:26/26, Alk Phos / T
   Bili:348/3.0, Amylase / Lipase:34/21, Lactic Acid:1.1 mmol/L,
   Albumin:1.4 g/dL, LDH:227 IU/L, Ca++:7.7 mg/dL, Mg++:2.2 mg/dL, PO4:3.0
   mg/dL
   Assessment and Plan
 OLIGURIA/ANURIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 TACHYCARDIA, OTHER
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 .H/O FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   .
   A/P:  Pt is a 75 yo female with history of CHF, COPD, DM2,
   schizophrenia who presented with gram-negative sepsis, requiring
   vasopressors for 48 hours, now found to have increasing LFTs in a
   cholestatic pattern.
   .
   # Gram-negative sepsis:  Most likely source is cholangitis, GNR
s in
   blood stream not yet speciated here.  Urine and blood cultures grew E.
   coli sensitive to CTX, ceftaz, gent, zosyn, tobra, bactrim, and
   ertapenem.  Currently borderline hypontensive with MAPs around 60.
   White count is increasing today, with more labile bps.  Suspect recent
   decomponsation is secondary to recent instrumentation.
   - broadened her coverage to include meropenem in case of ESBL and vanc
   in case of
   - O/n had been giving IVF boluses to maintain MAP of >60, unfortunately
   this appears to be compromising pulmonary function, would favor
   levophed if maps dropping below 60 again.
   - f/u AM cortisol, consider cortisol stim.
   .
   #Hypoxic and Hypercapneic respiratory faillure:  Patient was electively
   intubated for ERCP [**2-3**]
increased abdominal girth.
  She returned to
   the floor intubated, somnolent.  It is unclear what was used to sedate
   her for the procedure, however she remained somnolent on the floor and,
   on [**5-6**], after several hours was noted to have
air hunger,
 at this
   time an ABG was checked which revealed acidemia hypercapnea,
   .
   # Hyperchloremic, non-gap metabolic acidosis
 Suspect Normal Saline
   fluid resuscitation vs. Bicarb wastin RTA in early renal faillure.
   Would bolus back with D5 bicarb or LR over NS if necessary.
   .
   #AMS:  Likely multifactorial with toxic metabolic in the setting of
   sepsis, retained sedatives in the setting of renal and hepatic faillure
   and hypercapnea in the setting of respiratory faillure.
   -treat underlying causes
   .
   #Anuric [**Last Name (un) **]:  Suspect ischemic ATN with multiple hypotensive episodes
   at OSH requiring pressors and again at ERCP on the 26^th.  Unable to
   obtain urine lytes [**2-3**] anuria.
   - send urine lytes
   - consult renal for possible impending HD
   .
   # Cholestatic LFT pattern, coagulopathy:  ERCP revealed a 2cm stone
   which could not be removed,   Cholangitis may be the source of E. coli;
   however, she inconsistently has RUQ tenderness on exam.  She has also
   improved dramatically in the last 5 days despite no drainage of the
   biliary system.  No evidence of cholangitis
   - monitor LFTs, coags
   - plan for ERCP this morning, will f/u recs re: additional imaging;
   appreciate input
   .
   # Coagulopathy:  Likely related the liver dysfunction.  Interestingly,
   her coagulopathy responded to vitamin K.
   - cont. to monitor coags
   .
   # Hypoxia:  Pt in decompensated heart failure at OSH.  Also has history
   of COPD on multiple inhalers at home.  On exam, pt has bibasilar
   crackles.
   - obtain CXR
   .
   # MAT:  EKG here shows ST with PACs.
   - treat underlying infection
   - IVF boluses as needed
   .
   # Volume status:  Pt aggressively fluid resuscitated in the setting of
   sepsis.  Pt is now requiring 3.5 L NC with coarse bibasilar crackles on
   exam.
   - obtain CXR
   - monitor pulmonary status after all IVF boluses as pt is [**Name (NI) 951**]
   .
   # Depressed mental status:  This is likely delirium on dementia.
   Baseline is unclear.  This is likely related to infectious process.  No
   hypercarbia on ABG.  Per report, this is not patient
s baseline.
   - treat underlying infectious process
   - hold neurontin for now given mental status
   - monitor mental status, low threshold to perform head CT given recent
   INR of 6
   -  will check ammonia level
   .
   # Demand ischemia:  Trop I had trended down at OSH.
   .
   # ARF:  Cr peaked at 2 at OSH, currently trending down.
   - cont. to monitor Cr
   - renally dose medications, avoid nephrotoxins
   .
   # COPD:
   - serial CXR
   - nebulizers prn
   - cont. Advair
   .
   # Schizophrenia:
   - restart home antipsychotics
   - hold neurontin for now given mental status
   .
   #  DM2
   - insulin SS
   .
   #  Gastritis/PUD
   - cont. protonix
   .
   # FEN:  IVF boluses as above, monitor electrolytes, NPO except for meds
   # PPx:  pneumoboots and SC heparin, bowel regimen
   .
   Access:  two PIVs, A-line
   Code:  DNR/DNI (form in OSH records) though full code as per daughter
   last night
   Contact:  Daughter [**Name (NI) **] (HCP) [**Telephone/Fax (1) 12841**] (unable to reach)
   .
   ICU Care
 see above
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2189-1-26**] 10:49 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2189-1-27**] 04:30 PM
   Arterial Line - [**2189-1-28**] 02:37 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2189-01-28 11:15:00 Physician Attending Progress Note
Chief Complaint: Respriatory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   ERCP performed yesterday afternoon -- CBD stone noted, but unable to
   extract.
   Returned to MICU intubated.  Remains intubated, mechanically
   ventilated.
   Experienced hypotension overnight, required iv fluid boluses.
   Antimicrobials expanded.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2189-1-28**] 05:30 AM
   Vancomycin - [**2189-1-28**] 06:32 AM
   Ceftriaxone - [**2189-1-28**] 07:51 AM
   Infusions:
   Other ICU medications:
   Diltiazem - [**2189-1-27**] 06:00 PM
   Heparin Sodium (Prophylaxis) - [**2189-1-27**] 08:22 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2189-1-28**] 11:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**91**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.6
C (97.8
   HR: 75 (75 - 147) bpm
   BP: 97/52(57) {80/43(57) - 106/55(70)} mmHg
   RR: 18 (9 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  4,230 mL
                                                                  1,516 mL
   PO:
             TF:
   IVF:
                                                                  4,230 mL
                                                                  1,456 mL
   Blood products:
   Total out:
                                                                    445 mL
                                                                     35 mL
   Urine:
                                                                    445 mL
                                                                     35 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,785 mL
                                                                  1,481 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 500 (450 - 500) mL
   Vt (Spontaneous): 0 (0 - 400) mL
   PS : 12 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 48
   PIP: 26 cmH2O
   Plateau: 21 cmH2O
   Compliance: 31.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.31/38/61/19/-6
   Ve: 9.2 L/min
   PaO2 / FiO2: 153
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.8 g/dL
   130 K/uL
   78 mg/dL
   1.6 mg/dL
   19 mEq/L
   4.3 mEq/L
   36 mg/dL
   115 mEq/L
   141 mEq/L
   29.3 %
   20.3 K/uL
        [image002.jpg]
                             [**2189-1-26**]  11:27 PM
                             [**2189-1-27**]  05:30 AM
                             [**2189-1-27**]  07:52 PM
                             [**2189-1-27**]  11:01 PM
                             [**2189-1-28**]  12:12 AM
                             [**2189-1-28**]  03:03 AM
                             [**2189-1-28**]  03:36 AM
   WBC
   15.6
   20.3
   Hct
   30.8
   29.3
   Plt
   184
   130
   Cr
   1.3
   1.4
   1.6
   TCO2
   22
   23
   22
   20
   Glucose
   116
   66
   78
   Other labs: PT / PTT / INR:12.0/37.8/1.0, ALT / AST:26/26, Alk Phos / T
   Bili:348/3.0, Amylase / Lipase:34/21, Lactic Acid:1.1 mmol/L,
   Albumin:1.4 g/dL, LDH:227 IU/L, Ca++:7.7 mg/dL, Mg++:2.2 mg/dL, PO4:3.0
   mg/dL
   Assessment and Plan
   75 yof CHF, COPD, NIDDM, schizophrenia now with GNR sepsis, and
   increasing LFTs.
   RESPIRATORY FAILURE -- Persistent, predominately related to sepsis and
   altered mental status, on background of COPD.  Radiographic evidence
   for pleural effusions, or perhaps component of atalectasis.  Need to
   consider possibility of aspiration pneumonia.  Continue mechanical
   ventilation, monitor ABG.
   SEPSIS -- E. coli isolated in blood.  Possible source includes urinary
   vs. hepatobiliary (possible cholangitis).  Responding to current level
   of care.  Continue current management.
   HYPOTENSION -- attributed to sepsis (3rd spacing) and hypovolemia.
   Continue net volume expansion. [**Month (only) 51**] require placement of central line,
   to allow repleteion and monitoring of CVP.
   E.COli BACTEREMIA -- urinary source vs. hepatobiliary.  Continue
   antimicrobials.  Monitor blood cultures.
   ABNORMAL LFTS -- Cholestatic LFT pattern.  RUQ US shows sludge with
   possible mass vs. biliary stone -- may be element of chronicity.
   Cholangitis may be the source of E. col.  Consider abd CT.  Monitor
   LFTs.
   ALTERED MENTAL STATUS -- possible toxic-metabolic or related to
   medications.  Evidence for component of chronic liver diseaes (elevated
   NH3). Plan continue lactulose.  Currrently not requiring sedation
   continuous infusion.
   RENAL FAILURE -- acute. Multifactorial, and attributed to hypovolemia,
   sepsis, ATN, perhaps contrast dye (related to ERCP).
   PULMONARY HTN -- mild as determined by cardiac echo
   COAGULOPATHY --Likely related to underlying liver dysfunction, sepsis
   and nutrition deficincy.  Improved with Vit K.  Monitor PT, PTT.
   TACHYCARDIA -- MAT by ECG.  Monitor.
   FLUIDS
 Continue to net replete, monitor I/O.  Monitor CVP if central
   line replaced.
   NUTRITIONAL SUPPORT
 NPO pending completion of GI evaluation.  Would
   like to initiate TF once ileus resolves.  Consider TPN if remains NPO.
   COPD
 No evidence for active exacerbation.  Continue usual meds.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2189-1-27**] 04:30 PM
   Arterial Line - [**2189-1-28**] 02:37 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status:  Full Code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2189-01-29 07:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2189-1-28**] 10:15 AM
   ABD
 MULTI LUMEN - START [**2189-1-28**] 10:24 PM
   - AM cortisol 47.5
   - ab U/S showed intra and extra-hep biliary duct dilation, mult
   stones/air/GB wall thickening/small perichol fluid, possibly [**2-3**] ERCP,
   marked splenomeg, mod ascites (our guess is cirrhosis)
   - CT suggested by U/S read but not done b/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **], [**First Name3 (LF) **] reconsider if
   clinical change
   - L IJ placed
   - required levophed for hypotension despite IVF
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   History obtained from [**Hospital 15**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2189-1-28**] 06:32 AM
   Ceftriaxone - [**2189-1-28**] 07:51 AM
   Meropenem - [**2189-1-28**] 08:57 PM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2189-1-29**] 01:09 AM
   Other medications:
   Changes to medical and family history:
   intubated and sedated, not following commands;  tries to open eyes to
   name
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Flowsheet Data as of  [**2189-1-29**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**91**] AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 87 (73 - 108) bpm
   BP: 116/51(73) {86/43(57) - 138/101(106)} mmHg
   RR: 21 (16 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
    CVP: 9 (7 - 14)mmHg
   Total In:
                                                                  4,852 mL
                                                                    372 mL
   PO:
   TF:
   IVF:
                                                                  4,762 mL
                                                                    282 mL
   Blood products:
   Total out:
                                                                    120 mL
                                                                     50 mL
   Urine:
                                                                    120 mL
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,732 mL
                                                                    322 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 21
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 26 cmH2O
   Plateau: 23 cmH2O
   Compliance: 29.4 cmH2O/mL
   SpO2: 98%
   ABG: 7.31/38/142/19/-6
   Ve: 11.1 L/min
   PaO2 / FiO2: 284
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), no m,r,g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, No(t) Bowel sounds present, Tender: mid-right to RUQ,
   Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   172 K/uL
   9.3 g/dL
   90 mg/dL
   1.9 mg/dL
   19 mEq/L
   3.9 mEq/L
   39 mg/dL
   110 mEq/L
   137 mEq/L
   29.6 %
   30.9 K/uL
        [image002.jpg]
                             [**2189-1-27**]  07:52 PM
                             [**2189-1-27**]  11:01 PM
                             [**2189-1-28**]  12:12 AM
                             [**2189-1-28**]  03:03 AM
                             [**2189-1-28**]  03:36 AM
                             [**2189-1-28**]  05:54 PM
                             [**2189-1-28**]  07:10 PM
                             [**2189-1-28**]  07:21 PM
                             [**2189-1-29**]  03:47 AM
                             [**2189-1-29**]  04:11 AM
   WBC
   20.3
   30.9
   Hct
   29.3
   29.6
   Plt
   130
   172
   Cr
   1.4
   1.6
   1.7
   1.9
   TCO2
   23
   22
   20
   20
   20
   20
   Glucose
   66
   78
   77
   90
   Other labs: PT / PTT / INR:12.0/37.8/1.0, ALT / AST:26/27, Alk Phos / T
   [**Year (4 digits) **]:480/3.4, Amylase / Lipase:34/21, Lactic Acid:1.3 mmol/L,
   Albumin:1.4 g/dL, LDH:301 IU/L, Ca++:7.7 mg/dL, Mg++:2.2 mg/dL, PO4:2.6
   mg/dL
   Imaging: CT head: No acute intracranial process noted. Technically
   limited study.
   Abdominal U/S:
   1. Intra- and extra-hepatic biliary dilatation with common duct
   measuring up to 2.8 cm.
   2. Pneumobilia, compatible with recent history of ERCP.
   3. Multiple stones, air and gallbladder wall thickening, with a small
   amount
   of pericholecystic fluid. Changes may be secondary to ERCP, however, CT
   is
   recommended for further assessment.
   4. Marked splenomegaly.
   5. Moderate ascites.
   Microbiology: MRSA screen (+)
   [**2189-1-26**] 10:40 pm BLOOD CULTURE      Source: Line-left SC.
      Blood Culture, Routine (Preliminary):
         GRAM NEGATIVE ROD(S).
   [**2189-1-27**] 1:50 pm BLOOD CULTURE      Source: Line-CVL.
      Blood Culture, Routine (Preliminary):
         GRAM NEGATIVE ROD(S).
   [**1-28**], [**1-29**] blood cx pending
   C.diff pending
   Assessment and Plan
 OLIGURIA/ANURIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 TACHYCARDIA, OTHER
   >  GNR bacteremia
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 .H/O FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   A/P:  Pt is a 75 yo female with history of CHF, COPD, DM2,
   schizophrenia who presented with gram-negative sepsis, requiring
   vasopressors for 48 hours, now found to have increasing LFTs in a
   cholestatic pattern.
   .
   # Gram-negative sepsis:  Most likely source is cholangitis, GNR
s in
   blood stream resistant to cipro, sensitive to meropenem.  Urine and
   blood cultures grew E. coli sensitive to CTX, ceftaz, gent, zosyn,
   tobra, bactrim, and ertapenem.  Currently borderline hypontensive with
   MAPs around 60.  White count cont to increase, with more labile bps.
   Suspect recent decomponsation is secondary to recent instrumentation.
   On levo, episode of SVT this morning -> will convert to neo to avoid
   Beta agonism.
   - broadened her coverage to include meropenem in case of ESBL and vanc
   in case of
   - AM cortisol normal
   - will consult surgery given worsening clinical picture, ? biliary
   drainage
   - MAP > 65, CVP 10-12
   .
   #Hypoxic and Hypercapneic respiratory faillure:  Patient was electively
   intubated for ERCP [**2-3**]
increased abdominal girth.
  She returned to
   the floor intubated, somnolent.  It is unclear what was used to sedate
   her for the procedure, however she remained somnolent on the floor and,
   on [**5-6**], after several hours was noted to have
air hunger,
 at this
   time an ABG was checked which revealed acidemia and hypercapnea.
   - though diuresis would likely be impossible anyway in this anuric
   patient, would hold off even if it were in a patient who is actively in
   and out of septic shock
   - support oxygenation with vent for now
   - cont PRVC, if dysynchronous, can try PSV
   .
   # Hyperchloremic, non-gap metabolic acidosis
 Suspect Normal Saline
   fluid resuscitation vs. Bicarb wastin RTA in early renal faillure.
   Would bolus back with D5 bicarb or LR over NS if necessary.
   .
   #AMS:  Likely multifactorial with toxic metabolic in the setting of
   sepsis, retained sedatives in the setting of renal and hepatic faillure
   and hypercapnea in the setting of respiratory faillure, ?hepatic
   encephalopathy.  Given increasing [**Last Name (LF) **], [**First Name3 (LF) **] consult surgery, ? biliary
   drainage.  Other less likely etiologies include NCSE, post-ictal,
   hospital-acquired bacterial meningitis, all unlikely.
   -Head CT WNL
   -treat underlying causes as noted elsewhere
   .
   #Anuric [**Last Name (un) **]:  Suspect ischemic ATN with multiple hypotensive episodes
   at OSH requiring pressors and again at ERCP on the 26^th.  Had recent
   creatinine bump at OSH that had been trending down.
   - FeNa 1.1
   - will consider renal consult tomorrow for likely CRRT for volume
   .
   #  SVT- likely AVRT/AVNRT in morning, response to vagal maneuver.  H/O
   MAT.  Will cont to monitor carefully.
   # Cholestatic LFT pattern:  ERCP revealed a 2cm stone which could not
   be removed, her CBD was stented, no report as to puss or not.
   Cholangitis may be the source of GNRs, Her LFTs continue to improve
   with abx and are down with stent placement.
   - monitor LFTs, coags
   - ERCP recs, [**Doctor First Name 213**] consult as above, appreciate recs
   .
   # ?hepatic dysfunction: Patient with low albumin, poor coags, physical
   stigmata of telangectasia
s and palmar erythema, and a mildly elevated
   amonia of 65, cirrhosis is a possiblity.  Not mentioned on RUQ u/s at
   OSH, but would repeat in house to determine for sure.  Repeat abdominal
   u/s shows no evidence of cirrhosis by report.
   - cont lactulose
   .
   # Coagulopathy:  Likely related the liver dysfunction.  Interestingly,
   her coagulopathy responded to vitamin K.
   - cont. to monitor coags
   .
   # MAT:  In and out of MAT all day yesterday, currently in NSR at 80.
   - prn Dilt
   - treat underlying infection
   .
   # Demand ischemia:  Trop I had trended down at OSH.
   .
   # COPD:
   - serial CXR
   - nebulizers prn
   - cont. Advair
   .
   # Schizophrenia:
   - restart home antipsychotics
   - hold neurontin for now given mental status
   .
   #  DM2
   - insulin SS
   .
   #  Gastritis/PUD
   - cont. protonix
   .
   # FEN:  IVF boluses as above, monitor electrolytes, NPO except for meds
   # PPx:  pneumoboots and SC heparin, bowel regimen, pantoprazole
   .
   Access:  two PIVs, A-line, CVL
   Code:  full code
   Contact:  Daughter [**Name (NI) **] (HCP) [**Telephone/Fax (1) 12841**] (unable to reach)
   ICU Care see above
   Nutrition:  TF recs
   Glycemic Control:
   Lines:
   20 Gauge - [**2189-1-27**] 04:30 PM
   Arterial Line - [**2189-1-28**] 02:37 AM
   Multi Lumen - [**2189-1-28**] 10:24 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: full code
   Disposition:

2189-01-29 12:42:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Persistent hypotension, partially responsive to iv fluid boluses.
   Required vasopressor last PM to maintain MAP > 60 mmHg.  New central
   line placed.
   Experienced narrow complex tachycardia this AM, without hypotension.
   Carotid massage resulted in slowing of HR.
   Neosinephrine substitued for Levophed.
   CVP now 7-9 cm H2O.
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2189-1-28**] 06:32 AM
   Ceftriaxone - [**2189-1-28**] 07:51 AM
   Meropenem - [**2189-1-29**] 08:02 AM
   Infusions:
   Phenylephrine - 1 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2189-1-29**] 08:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2189-1-29**] 12:39 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**91**] AM
   Tmax: 37.8
C (100
   Tcurrent: 37.4
C (99.3
   HR: 92 (76 - 146) bpm
   BP: 101/46(64) {86/43(57) - 138/101(106)} mmHg
   RR: 21 (17 - 24) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 63 Inch
   CVP: 7 (7 - 14)mmHg
   Total In:
                                                                  4,852 mL
                                                                    662 mL
   PO:
   TF:
   IVF:
                                                                  4,762 mL
                                                                    572 mL
   Blood products:
   Total out:
                                                                    120 mL
                                                                    150 mL
   Urine:
                                                                    120 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,732 mL
                                                                    512 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 366 (0 - 366) mL
   PS : 12 cmH2O
   RR (Set): 21
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 93
   PIP: 16 cmH2O
   Plateau: 22 cmH2O
   Compliance: 31.3 cmH2O/mL
   SpO2: 98%
   ABG: 7.31/38/142/19/-6
   Ve: 7.5 L/min
   PaO2 / FiO2: 284
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal, Attempts to open eyes.
   Labs / Radiology
   9.3 g/dL
   172 K/uL
   90 mg/dL
   1.9 mg/dL
   19 mEq/L
   3.9 mEq/L
   39 mg/dL
   110 mEq/L
   137 mEq/L
   29.6 %
   30.9 K/uL
        [image002.jpg]
                             [**2189-1-27**]  07:52 PM
                             [**2189-1-27**]  11:01 PM
                             [**2189-1-28**]  12:12 AM
                             [**2189-1-28**]  03:03 AM
                             [**2189-1-28**]  03:36 AM
                             [**2189-1-28**]  05:54 PM
                             [**2189-1-28**]  07:10 PM
                             [**2189-1-28**]  07:21 PM
                             [**2189-1-29**]  03:47 AM
                             [**2189-1-29**]  04:11 AM
   WBC
   20.3
   30.9
   Hct
   29.3
   29.6
   Plt
   130
   172
   Cr
   1.4
   1.6
   1.7
   1.9
   TCO2
   23
   22
   20
   20
   20
   20
   Glucose
   66
   78
   77
   90
   Other labs: PT / PTT / INR:12.0/37.8/1.0, ALT / AST:26/27, Alk Phos / T
   Bili:480/3.4, Amylase / Lipase:34/21, Differential-Neuts:80.0 %,
   Band:10.0 %, Lymph:5.0 %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:1.3
   mmol/L, Albumin:1.4 g/dL, LDH:301 IU/L, Ca++:7.7 mg/dL, Mg++:2.2 mg/dL,
   PO4:2.6 mg/dL
   Assessment and Plan
   75 yof CHF, COPD, NIDDM, schizophrenia now with GNR sepsis, and
   increasing LFTs.
   RESPIRATORY FAILURE -- Persistent, predominately related to sepsis and
   altered mental status, on background of COPD.  Radiographic evidence
   for pleural effusions, or perhaps component of atalectasis.  Need to
   consider possibility of aspiration pneumonia.  Continue mechanical
   ventilation, monitor ABG.
   ALTERED MENTAL STATUS -- Encephalopathy.  Possible toxic-metabolic or
   related to medications.  Evidence for component of chronic liver
   diseaes (elevated NH3).  No evidence for acute CVA.  Doubt seizures
   with post-ictal state.  Plan continue lactulose.  Currrently not
   requiring sedation continuous infusion.  Avoid sedatives.  If persists
   or worsens, would check head MRI, EEG and consider CSF analysis.
   TACHYCARDIA -- SVT, suspect re-entrant circuit.  Monitor HR.  Continue
   neosinephrine (rather than levophed) for BP support.
   SEPSIS -- Persisent.  E. coli isolated in blood.  Possible source
   includes urinary vs. hepatobiliary (possible cholangitis).  Moderate
   ascites, raises possibility of Responding to current level of care.
   Continue current management.  Need to discuss plans for further
   intervention -- concern about persistent CBD stone.  General Surgery
   consult, need to consider surgical exploration or percutaneous drainage
   (IR).
   HYPOTENSION -- attributed to sepsis (3rd spacing) and hypovolemia.
   Continue net volume expansion. [**Month (only) 51**] require placement of central line,
   to allow repleteion and monitoring of CVP.
   E.COli BACTEREMIA -- urinary source vs. hepatobiliary.  Continue
   antimicrobials.  Monitor blood cultures.
   ABNORMAL LFTS -- Cholestatic LFT pattern.  RUQ US shows sludge with
   possible mass vs. biliary stone -- may be element of chronicity.
   Cholangitis may be the source of E. col.  Consider abd CT.  Monitor
   LFTs.
   RENAL FAILURE -- acute. Multifactorial, and attributed to hypovolemia,
   sepsis, ATN.  Monitor UO, BUN,creatinine.
   HYPOPHOSPHATEMIA -- replete.
   PULMONARY HTN -- mild as determined by cardiac echo
   COAGULOPATHY --Likely related to underlying liver dysfunction, sepsis
   and nutrition deficincy.  Improved with Vit K.  Monitor PT, PTT.
   TACHYCARDIA -- MAT by ECG.  Monitor.
   FLUIDS
 Continue to net replete, monitor I/O.  Monitor CVP if central
   line replaced.
   NUTRITIONAL SUPPORT
 NPO pending completion of GI evaluation.  Would
   like to initiate TF once ileus resolves.  Consider TPN if remains NPO.
   COPD
 No evidence for active exacerbation.  Continue usual meds.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2189-1-27**] 04:30 PM
   Arterial Line - [**2189-1-28**] 02:37 AM
   Multi Lumen - [**2189-1-28**] 10:24 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL CODE
   Disposition :  ICU
   Total time spent: 45 minutes

2189-01-30 07:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2189-1-29**] 10:30 AM
 PERCUTANEOUS DRAIN INSERTION - At [**2189-1-29**] 10:30 PM
   for perctranshepatic cholangigraphy
 EKG - At [**2189-1-30**] 03:03 AM
   - GNRs in blood sensitive to meropenem
   - GPCs in pairs and chains from [**2189-1-29**] blood cultures, [**2-3**] in
   anaerobic bottles, a-line and CVL
   - CT abdomen/pelvis -> ? ascending cholangitis
   - received one liter NS in evening
   - went to IR overnight for PTC drainage of biliary tree
   - episode possible AVRT/AVNRT in morning to 200s, broke with carotid
   massage
   - recurrent SVT in evening, initially 200s -> carotid massage -> 150;
   adenosine showed underlying atrial flutter, dilt x 2 no change, then
   started amio; of note, BP never compromised during these episodes of
   SVT
   - converted levo to neo
   - following IR-guided placement of PTC, CVP dropped, pt became more
   febrile, worsening sepsis-like physiology
   History obtained from Medical records
   Allergies:
   History obtained from Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2189-1-28**] 07:51 AM
   Meropenem - [**2189-1-29**] 08:02 AM
   Vancomycin - [**2189-1-29**] 08:02 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Phenylephrine - 3 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2189-1-29**] 08:15 AM
   Adenosine - [**2189-1-29**] 05:30 PM
   Diltiazem - [**2189-1-29**] 05:40 PM
   Amiodarone - [**2189-1-29**] 07:28 PM
   Fentanyl - [**2189-1-30**] 06:28 AM
   Other medications:
   Changes to medical and family history:
   intubated and sedated, underlying encephalopathy
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Flowsheet Data as of  [**2189-1-30**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**91**] AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.8
C (100.1
   HR: 135 (74 - 152) bpm
   BP: 100/39(57) {100/39(57) - 156/69(95)} mmHg
   RR: 31 (16 - 31) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106.5 kg (admission): 96.6 kg
   Height: 63 Inch
    CVP: 6 (1 - 16)mmHg
   CO/CI (CCO): () / (4.3 L/min/m2)
   Total In:
                                                                  3,160 mL
                                                                  3,691 mL
   PO:
   TF:
   IVF:
                                                                  3,070 mL
                                                                  3,691 mL
   Blood products:
   Total out:
                                                                    250 mL
                                                                    125 mL
   Urine:
                                                                    250 mL
                                                                     70 mL
   NG:
   Stool:
   Drains:
                                                                     55 mL
   Balance:
                                                                  2,910 mL
                                                                  3,566 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 473 (0 - 473) mL
   PS : 12 cmH2O
   RR (Set): 21
   RR (Spontaneous): 16
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 93
   RSBI Deferred: Hemodynamic Instability
   PIP: 31 cmH2O
   Plateau: 23 cmH2O
   Compliance: 27.8 cmH2O/mL
   SpO2: 98%
   ABG: 7.16/46/80.[**Numeric Identifier 176**]/16/-12
   Ve: 7.9 L/min
   PaO2 / FiO2: 160
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL, scleral icterus
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), irregular, tachycardic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   "gasping" for air/abdominal breathing
   Abdominal: No(t) Bowel sounds present, Distended, No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: No(t) Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Sedated, Tone: Not assessed, tries to open eyes
   to name
   Labs / Radiology
   159 K/uL
   9.5 g/dL
   194 mg/dL
   2.3 mg/dL
   16 mEq/L
   4.8 mEq/L
   42 mg/dL
   111 mEq/L
   136 mEq/L
   29.9 %
   31.5 K/uL
        [image002.jpg]
                             [**2189-1-28**]  03:36 AM
                             [**2189-1-28**]  05:54 PM
                             [**2189-1-28**]  07:10 PM
                             [**2189-1-28**]  07:21 PM
                             [**2189-1-29**]  03:47 AM
                             [**2189-1-29**]  04:11 AM
                             [**2189-1-29**]  03:13 PM
                             [**2189-1-30**]  02:25 AM
                             [**2189-1-30**]  02:47 AM
                             [**2189-1-30**]  04:40 AM
   WBC
   30.9
   31.5
   Hct
   29.6
   29.9
   Plt
   172
   159
   Cr
   1.7
   1.9
   2.1
   2.3
   TropT
   0.41
   TCO2
   20
   20
   20
   20
   18
   17
   Glucose
   77
   90
   88
   194
   Other labs: PT / PTT / INR:11.9/38.1/1.0, CK / CKMB /
   Troponin-T:22/6/0.41, ALT / AST:27/47, Alk Phos / T [**Year (4 digits) **]:578/5.2,
   Amylase / Lipase:34/21, Differential-Neuts:80.0 %, Band:10.0 %,
   Lymph:5.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:514 mg/dL, Lactic
   Acid:1.7 mmol/L, Albumin:1.8 g/dL, LDH:318 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.9 mg/dL
   Imaging: CT A/P, non-con:
   1. Markedly dilated biliary tree, with the CBD measuring up to 2.2 cm,
   with a large impacted stone. An underlying infectious process such as
   cholangitis
   cannot be excluded, and is the most likely septic source.
   2. The biliary stent has migrated into the duodenum or proximal
   jejunum.
   3. Moderate ascites.
   4. Nondilated gallbladder with air and sludge and/or old contrast.
   5. No evidence of bowel obstruction or perforation.
   6. Right inferior and superior minimally-displaced rami fractures of
   unknown
   chronicity, with evidence of healing.
   Microbiology: [**2189-1-30**] 12:10 am BILE
      GRAM STAIN (Final [**2189-1-30**]):
         2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS
   [**2189-1-29**] 3:23 pm SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2189-1-29**]):
         >25 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE
   C. diff (-)
   [**2189-1-29**] 3:47 am BLOOD CULTURE      Source: Line-art.
      Blood Culture, Routine (Preliminary):
         GRAM POSITIVE COCCUS(COCCI).    IN PAIRS AND CHAINS
   [**2189-1-29**] 3:47 am BLOOD CULTURE      Source: Line-cvl.
   [**2189-1-26**]:  GNRs resistant to amp and cipro
      Blood Culture, Routine (Preliminary):
         GRAM POSITIVE COCCUS(COCCI).    IN PAIRS AND CHAINS
   ECG: a. trial flutter with varying conduction following adenosine
   repeat ECG -> ? MAT, no overt ST-T changes suggestive of ischemia
   Assessment and Plan
   >  SEPTIC SHOCK
 OLIGURIA/ANURIA/RENAL FAILURE
   >  NON-ANION GAP METABOLIC ACIDOSIS
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 TACHYCARDIA, ELEVATED TROPONIN
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 .H/O FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   A/P:  Pt is a 75 yo female with history of CHF, COPD, DM2,
   schizophrenia who presented with gram-negative sepsis, requiring
   vasopressors, now found to have increasing LFTs in a cholestatic
   pattern with GNR and GPC bacteremia.
   .
   # Septic Shock:  Most likely source is cholangitis, GNR
s in blood
   stream resistant to cipro, sensitive to meropenem.  Urine and blood
   cultures grew E. coli sensitive to CTX, ceftaz, gent, zosyn, tobra,
   bactrim, and ertapenem.  Now has GPCs in pairs in chains from anaerobic
   bottle.  White count cont to be elevated, with more stable blood
   pressure on neo.  Hemodynamically stable in setting of recurrent bouts
   of SVT.  Suspect deterioration overnight [**2-3**] [**Name (NI) 12932**] PTC drain
   placement.  On neo, cont to avoid levo given SVT.  Patient now has
   decompressed biliary tree, with thick green output from drain.
   - cont vanc, check trough, will dose by level
   - will consider converting [**Last Name (un) 614**] to linezolid to cover for possible VRE
   - MAP > 65, titrate to CVP 10-12, cont to bolus with NS and D5W with
   bicarb, as oxygenation is not compromised
   - appreciate IR assistance
   .
   #Hypoxic and Hypercapneic respiratory faillure:  Patient was electively
   intubated for ERCP [**2-3**]
increased abdominal girth.
  She returned to
   the floor intubated, somnolent.  It is unclear what was used to sedate
   her for the procedure, however she remained somnolent on the floor and,
   on [**5-6**], after several hours was noted to have
air hunger,
 at this
   time an ABG was checked which revealed acidemia and hypercapnea.
   Overnight post-procedure, increasing tachypnea, ABG showed impaired
   oxygenation, which improved on increased PEEP.  ABG also suggested
   non-anion gap metabolic acidosis, without full respiratory
   compensation.  Pt at risk to develop ARDS.
   - cont AC, increase rate, and recheck ABG, attempt to increase minute
   ventilation
   .
   # Hyperchloremic, non-gap metabolic acidosis
 Suspect Normal Saline
   fluid resuscitation vs. Bicarb wasting RTA in early renal faillure.
   Would bolus back with D5 bicarb as above.
   .
   #AMS:  Likely multifactorial with toxic metabolic in the setting of
   sepsis, retained sedatives in the setting of renal and hepatic faillure
   and hypercapnea in the setting of respiratory faillure, ?hepatic
   encephalopathy.  Given increasing [**Last Name (LF) **], [**First Name3 (LF) **] consult surgery, ? biliary
   drainage.  Other less likely etiologies include NCSE, post-ictal,
   hospital-acquired bacterial meningitis, all unlikely.
   -Head CT WNL
   -treat underlying causes as noted elsewhere
   .
   #Anuric [**Last Name (un) **]:  Suspect ischemic ATN with multiple hypotensive episodes
   at OSH requiring pressors and again at ERCP on the 26^th.  Had recent
   creatinine bump at OSH that had been trending down.  Muddy brown casts
   on urine sediment.
   - Renal consult today, will try to discuss goals of care with family
   prior to placing HD line
   .
   #  SVT- likely AVRT/AVNRT in morning, response to vagal maneuver.  H/O
   MAT.  Recurrent episode of AVRT/AVNRT in evening, with subsequent a.
   flutter noted following adenosine.  Now on amio gtt.  Evidence of MAT
   on repeat ECG.
   - will cont amio gtt for time being, avoiding rate control meds given
   hypotension
   # Cholestatic LFT pattern:  ERCP revealed a 2cm stone which could not
   be removed, her CBD was stented, no report as to puss or not.
   Cholangitis may be the source of GNRs, Her LFTs continue to improve
   with abx and are down with stent placement.
   - monitor LFTs, coags
   - ERCP recs, IR recs, [**Doctor First Name **] recs, appreciate input
   .
   # ?hepatic dysfunction: Patient with low albumin, poor coags, physical
   stigmata of telangectasia
s and palmar erythema, and a mildly elevated
   amonia of 65, cirrhosis is a possiblity.  Not mentioned on RUQ u/s at
   OSH, but would repeat in house to determine for sure.  Repeat abdominal
   u/s shows no evidence of cirrhosis by report.
   - cont lactulose
   .
   # Coagulopathy:  Likely related the liver dysfunction.  Interestingly,
   her coagulopathy responded to vitamin K.  Overall dysfunction likely
   [**2-3**]  septic shock and possible low grade DIC.  No active hemorrhage.
   - cont. to monitor coags, fibrinogen
   .
   # Demand ischemia:  Trop I had trended down at OSH.  Trop elevated
   again in setting of recent SVTs.  Will trend.
   .
   # COPD:
   - serial CXR
   - nebulizers prn
   - cont. Advair
   .
   # Schizophrenia:
   - restart home antipsychotics
   - hold neurontin for now given mental status
   .
   #  DM2
   - insulin SS
   .
   #  Gastritis/PUD
   - cont. protonix
   .
   # FEN:  IVF boluses as above, monitor electrolytes, NPO except for meds
   # PPx:  pneumoboots and SC heparin, bowel regimen, pantoprazole
   .
   Access:  two PIVs, A-line, CVL
   Code:  full code
   Contact:  Daughter [**Name (NI) **] (HCP) [**Telephone/Fax (1) 12841**] -> will urge family to
   visit today
   ICU Care
 see above
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2189-1-27**] 04:30 PM
   Arterial Line - [**2189-1-28**] 02:37 AM
   Multi Lumen - [**2189-1-28**] 10:24 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  FULL CODE
   Disposition:

2189-01-30 09:56:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Recurrent SVT yesterday, with evidence for a-flutter --> now on
   Amnioderone.
   With overall clinical decline, persistent sepsis, abnormal LFTs (know
   retained stone and dilated intrahepatic ducts) --> surgical evaluation
   recommended percutaneous drainage.
   IR place percutaneous tube, with return of thick material.
   Remains on vasopressors.
   Mental status somewhat improved, now occasionally turning head to
   voice.
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2189-1-28**] 07:51 AM
   Meropenem - [**2189-1-30**] 08:30 AM
   Vancomycin - [**2189-1-30**] 08:30 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Phenylephrine - 3 mcg/Kg/min
   Other ICU medications:
   Adenosine - [**2189-1-29**] 05:30 PM
   Diltiazem - [**2189-1-29**] 05:40 PM
   Amiodarone - [**2189-1-29**] 07:28 PM
   Fentanyl - [**2189-1-30**] 06:28 AM
   Pantoprazole (Protonix) - [**2189-1-30**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2189-1-30**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2189-1-30**] 09:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**91**] AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.5
C (99.5
   HR: 131 (74 - 152) bpm
   BP: 139/75(96) {100/39(57) - 156/75(96)} mmHg
   RR: 21 (16 - 31) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106.5 kg (admission): 96.6 kg
   Height: 63 Inch
   CVP: 6 (1 - 16)mmHg
   CO/CI (CCO): () / (4.4 L/min/m2)
                                Total In:
                                                                  3,160 mL
                                                                  4,392 mL
   PO:
                                TF:
   IVF:
                                                                  3,070 mL
                                                                  4,392 mL
   Blood products:
   Total out:
                                                                    250 mL
                                                                    145 mL
   Urine:
                                                                    250 mL
                                                                     90 mL
   NG:
   Stool:
   Drains:
   55 mL
   Balance:
                                                                  2,910 mL
                                                                  4,247 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 0 (0 - 473) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 34 cmH2O
   Plateau: 23 cmH2O
   Compliance: 27.8 cmH2O/mL
   SpO2: 96%
   ABG: 7.16/46/80.[**Numeric Identifier 176**]/16/-12
   Ve: 7.8 L/min
   PaO2 / FiO2: 160
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , Obese, Firm
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.5 g/dL
   159 K/uL
   194 mg/dL
   2.3 mg/dL
   16 mEq/L
   4.8 mEq/L
   42 mg/dL
   111 mEq/L
   136 mEq/L
   29.9 %
   31.5 K/uL
        [image002.jpg]
                             [**2189-1-28**]  03:36 AM
                             [**2189-1-28**]  05:54 PM
                             [**2189-1-28**]  07:10 PM
                             [**2189-1-28**]  07:21 PM
                             [**2189-1-29**]  03:47 AM
                             [**2189-1-29**]  04:11 AM
                             [**2189-1-29**]  03:13 PM
                             [**2189-1-30**]  02:25 AM
                             [**2189-1-30**]  02:47 AM
                             [**2189-1-30**]  04:40 AM
   WBC
   30.9
   31.5
   Hct
   29.6
   29.9
   Plt
   172
   159
   Cr
   1.7
   1.9
   2.1
   2.3
   TropT
   0.41
   TCO2
   20
   20
   20
   20
   18
   17
   Glucose
   77
   90
   88
   194
   Other labs: PT / PTT / INR:11.9/38.1/1.0, CK / CKMB /
   Troponin-T:22/6/0.41, ALT / AST:27/47, Alk Phos / T Bili:578/5.2,
   Amylase / Lipase:34/21, Differential-Neuts:80.0 %, Band:10.0 %,
   Lymph:5.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:514 mg/dL, Lactic
   Acid:1.7 mmol/L, Albumin:1.8 g/dL, LDH:318 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   75 yof CHF, COPD, NIDDM, schizophrenia now with GNR sepsis,
   choledocholithiasis (retained CBD stone) and persistently abnormal
   LFTs.
   RESPIRATORY FAILURE -- Persistent, predominately related to sepsis and
   altered mental status, on background of COPD.  Radiographic evidence
   for pleural effusions, or perhaps component of atalectasis.  Need to
   consider possibility of aspiration pneumonia.  Continue mechanical
   ventilation, monitor ABG.
   ALTERED MENTAL STATUS -- Encephalopathy.  Possible toxic-metabolic or
   related to medications.  Evidence for component of chronic liver
   diseaes (elevated NH3).  No evidence for acute CVA.  Doubt seizures
   with post-ictal state.  Plan continue lactulose.  Currrently not
   requiring sedation continuous infusion.  Avoid sedatives.  If persists
   or worsens, would check head MRI, EEG and consider CSF analysis.
   TACHYCARDIA -- Underlying MAT, and probable new SVT, suspect re-entrant
   circuit and evidence for atrial flutter.  Monitor HR.  Continue
   neosinephrine (rather than levophed) for BP support.
   SEPSIS -- Persisent.  E. coli and GPC isolated in blood.  Possible
   source includes urinary vs. hepatobiliary (possible cholangitis) and
   line related.  Evidence for biliary obstruction and cholangitis --> due
   to retained CBD stone --> now s/p percutaneous drainage per IR.
   Moderate ascites, raises possibility of SBP.  Continue current
   management.
   HYPOTENSION -- attributed to sepsis (3rd spacing) and hypovolemia.
   Continue net volume expansion. [**Month (only) 51**] require placement of central line,
   to allow repleteion and monitoring of CVP.  Monitor cardiac enzymes.
   E. Coli & GPC BACTEREMIA -- urinary source vs. hepatobiliary.  And now
   line-related.  Continue antimicrobials.  Monitor blood cultures.  Check
   cardiac echo to assess for veggetations.  Await identification of GPC.
   ABNORMAL LFTS -- Cholestatic LFT pattern.  RUQ US shows sludge with
   possible mass vs. biliary stone -- may be element of chronicity.
   Cholangitis may be the source of E. col.  Consider abd CT.  Monitor
   LFTs.
   ABD DISTENTION -- 3rd spacing, intraabdominal sepsis.  Monitor bladder
   pressure (may be contributing to renal failure).
   ACIDOSIS -- persistent.  Multifactorial.  Attributed to sepsis, acute
   renal failure.
   RENAL FAILURE -- acute. Oliguric.  Multifactorial, and attributed to
   hypovolemia, sepsis, ATN.  Monitor UO, BUN,creatinine.  [**Month (only) 51**] require
   renal replacement therapy soon, if acceptable to patient.
   HYPOPHOSPHATEMIA -- repleted iv to normal value.
   PULMONARY HTN -- mild as determined by cardiac echo
   COAGULOPATHY --Likely related to underlying liver dysfunction, sepsis
   and nutrition deficincy.  Improved with Vit K.  Monitor PT, PTT.
   FLUIDS
 Continue to net replete, monitor I/O.  Monitor CVP --> aim for
   > 10 cmH2O.
   NUTRITIONAL SUPPORT
 NPO pending completion of GI evaluation.  Would
   like to initiate TF once ileus resolves.  Consider TPN if remains NPO.
   COPD
 No evidence for active exacerbation.  Continue usual meds.
   GOALS OF CARE -- repeated requests to meet with family HCP without
   success.  Maintain contact, hope to meet today to update and define
   plans.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2189-1-27**] 04:30 PM
   Arterial Line - [**2189-1-28**] 02:37 AM
   Multi Lumen - [**2189-1-28**] 10:24 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Contact[**Name (NI) **] daughter.  [**Name (NI) 171**] to come to hospital
   tomorrow to discuss direction of care.
   Code status: Full code
   Disposition :ICU
   Total time spent: 75 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM:
   Back to IR for placement of larger percutaneous drain.  Attempts to
   retreive CBD stone.  VRE isolated in blood (now E. coli and VRE
   bacteremia/sepsis).
   Dialysis catheter placed in anticipation of renal replacement thereapy
   if needed.
   ------ Protected Section Addendum Entered By:[**Name (NI) 668**] [**Last Name (NamePattern1) **], MD
   on:[**2189-1-30**] 18:05 ------

2189-01-31 07:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Went down to IR had Catheter changed to 10 french, had HD line
   placed, had "floating" ERCP placed stent removed.  They attempted to
   retrieve stone, but couldnt
   - Briefly off neo, but back on at procedure
   - VRE in blood
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2189-1-28**] 07:51 AM
   Vancomycin - [**2189-1-30**] 08:30 AM
   Meropenem - [**2189-1-30**] 08:18 PM
   Linezolid - [**2189-1-30**] 09:50 PM
   Infusions:
   Phenylephrine - 0.5 mcg/Kg/min
   Amiodarone - 1 mg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2189-1-30**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2189-1-30**] 06:22 PM
   Amiodarone - [**2189-1-31**] 01:24 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-1-31**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**91**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.7
C (98.1
   HR: 139 (131 - 145) bpm
   BP: 118/63(80) {89/49(61) - 173/84(114)} mmHg
   RR: 23 (15 - 26) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106.5 kg (admission): 96.6 kg
   Height: 63 Inch
    CVP: 14 (7 - 17)mmHg
   Total In:
                                                                  7,584 mL
                                                                  1,177 mL
   PO:
   TF:
   IVF:
                                                                  7,584 mL
                                                                  1,177 mL
   Blood products:
   Total out:
                                                                    265 mL
                                                                    110 mL
   Urine:
                                                                    100 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
                                                                    165 mL
                                                                    100 mL
   Balance:
                                                                  7,319 mL
                                                                  1,067 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   PS : 12 cmH2O
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 32 cmH2O
   Plateau: 24 cmH2O
   Compliance: 31.3 cmH2O/mL
   SpO2: 99%
   ABG: 7.37/37/132/19/-3
   Ve: 12.5 L/min
   PaO2 / FiO2: 264
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL, scleral icterus
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), irregular, tachycardic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   "gasping" for air/abdominal breathing
   Abdominal: No(t) Bowel sounds present, Distended, No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: No(t) Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Sedated, Tone: Not assessed, tries to open eyes
   to name
   Labs / Radiology
   149 K/uL
   8.1 g/dL
   216 mg/dL
   2.5 mg/dL
   19 mEq/L
   4.0 mEq/L
   45 mg/dL
   106 mEq/L
   136 mEq/L
   24.9 %
   13.0 K/uL
        [image002.jpg]
                             [**2189-1-29**]  03:13 PM
                             [**2189-1-30**]  02:25 AM
                             [**2189-1-30**]  02:47 AM
                             [**2189-1-30**]  04:40 AM
                             [**2189-1-30**]  10:45 AM
                             [**2189-1-30**]  11:23 AM
                             [**2189-1-30**]  12:57 PM
                             [**2189-1-30**]  05:43 PM
                             [**2189-1-31**]  04:34 AM
                             [**2189-1-31**]  04:43 AM
   WBC
   31.5
   13.0
   Hct
   29.9
   24.9
   Plt
   159
   149
   Cr
   2.1
   2.3
   2.3
   2.5
   TropT
   0.41
   0.34
   TCO2
   18
   17
   21
   20
   20
   22
   Glucose
   88
   194
   350
   216
   Other labs: PT / PTT / INR:11.9/33.6/1.0, CK / CKMB /
   Troponin-T:37/6/0.34, ALT / AST:19/19, Alk Phos / T [**Year (4 digits) **]:321/2.0,
   Amylase / Lipase:34/21, Differential-Neuts:80.0 %, Band:10.0 %,
   Lymph:5.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:514 mg/dL, Lactic
   Acid:2.5 mmol/L, Albumin:1.8 g/dL, LDH:305 IU/L, Ca++:6.7 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   A/P:  Pt is a 75 yo female with history of CHF, COPD, DM2,
   schizophrenia who presented with gram-negative sepsis, requiring
   vasopressors, now found to have increasing LFTs in a cholestatic
   pattern with GNR and GPC bacteremia.
   .
   # Septic Shock:  VRE bacteremia had been missed by prior abx, now
   covered.  Most likely source is cholangitis, GNR
s in blood stream
   resistant to cipro, sensitive to meropenem.  Urine and blood cultures
   grew E. coli sensitive to CTX, ceftaz, gent, zosyn, tobra, bactrim, and
   ertapenem.  Now has GPCs in pairs in chains from anaerobic bottle.
   White count cont to be elevated, with more stable blood pressure on
   neo.  Hemodynamically stable in setting of recurrent bouts of SVT.
   Suspect deterioration overnight [**2-3**] [**Name (NI) 12932**] PTC drain placement.  On
   neo, cont to avoid levo given SVT.  Patient now has decompressed
   biliary tree, with thick green output from drain.
   - would d/c vanc
   - Started linezolide d2/14
   - bolus to keep SVV around 10
   - continue [**Last Name (un) 614**] for broad gram negative rod coverage
   - Note that stone has still not been retrieved, but drainage seems
   effective with drastic drop in LFTs
   - HD catheter?
   .
   #Hypoxic and Hypercapneic respiratory faillure:  Patient was electively
   intubated for ERCP [**2-3**]
increased abdominal girth.
  She returned to
   the floor intubated, somnolent.  It is unclear what was used to sedate
   her for the procedure, however she remained somnolent on the floor and,
   on [**5-6**], after several hours was noted to have
air hunger,
 at this
   time an ABG was checked which revealed acidemia and hypercapnea.  At
   the moment ABG
s are as good as they have been, would be interesting to
   see how she does on her own.  Will turn down FiO2
    - attempt presssure support
   .
   # Hyperchloremic, non-gap metabolic acidosis
 Nearly resolved with d5
   and bicarb, better treatment of infection
   .
   #AMS:  Likely multifactorial with toxic metabolic in the setting of
   sepsis, retained sedatives in the setting of renal and hepatic faillure
   and hypercapnea in the setting of respiratory faillure, ?hepatic
   encephalopathy.  Given increasing [**Last Name (LF) **], [**First Name3 (LF) **] consult surgery, ? biliary
   drainage.  Other less likely etiologies include NCSE, post-ictal,
   hospital-acquired bacterial meningitis, all unlikely.
   -Head CT WNL
   -treat underlying causes as noted elsewhere
   .
   #Anuric [**Last Name (un) **]:  Suspect ischemic ATN with multiple hypotensive episodes
   at OSH requiring pressors and again at ERCP on the 26^th.  Had recent
   creatinine bump at OSH that had been trending down.  Muddy brown casts
   on urine sediment.
   - Renal is planning for CVVH today
   .
   #  SVT- likely AVRT/AVNRT in morning, response to vagal maneuver.  H/O
   MAT.  Recurrent episode of AVRT/AVNRT in evening, with subsequent a.
   flutter noted following adenosine.  Now on amio gtt.  Evidence of MAT
   on repeat ECG.
   - will cont amio gtt for time being, avoiding rate control meds given
   hypotension
   .
   # Cholestatic LFT pattern:  ERCP revealed a 2cm stone which could not
   be removed, her CBD was stented, no report as to puss or not.
   Cholangitis may be the source of GNRs, Her LFTs continue to improve
   with abx and are down with stent placement.
   - monitor LFTs, coags
   - ERCP recs, IR recs, [**Doctor First Name **] recs, appreciate input
   .
   # ?hepatic dysfunction: Patient with low albumin, poor coags, physical
   stigmata of telangectasia
s and palmar erythema, and a mildly elevated
   amonia of 65, cirrhosis is a possiblity.  Not mentioned on RUQ u/s at
   OSH, but would repeat in house to determine for sure.  Repeat abdominal
   u/s shows no evidence of cirrhosis by report.
   - cont lactulose
   .
   # Coagulopathy:  Likely related the liver dysfunction.  Interestingly,
   her coagulopathy responded to vitamin K.  Overall dysfunction likely
   [**2-3**]  septic shock and possible low grade DIC.  No active hemorrhage.
   - cont. to monitor coags, fibrinogen
   .
   # Demand ischemia:  Trop I had trended down at OSH.  Trop elevated
   again in setting of recent SVTs.  Will trend.
   .
   # COPD:
   - serial CXR
   - nebulizers prn
   - cont. Advair
   .
   # Schizophrenia:
   - restart home antipsychotics
   - hold neurontin for now given mental status
   .
   #  DM2
   - insulin SS
   .
   #  Gastritis/PUD
   - cont. protonix
   .
   # FEN:  IVF boluses as above, monitor electrolytes, NPO except for meds
   # PPx:  pneumoboots and SC heparin, bowel regimen, pantoprazole
   .
   Access:  two PIVs, A-line, CVL
   Code:  full code
   Contact:  Daughter [**Name (NI) **] (HCP) [**Telephone/Fax (1) 12841**] -> will urge family to
   visit today
   ICU Care
 see above
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2189-1-27**] 04:30 PM
   Arterial Line - [**2189-1-28**] 02:37 AM
   Multi Lumen - [**2189-1-28**] 10:24 PM
   Prophylaxis:
   DVT:  heparin
   Stress ulcer: Pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  FULL CODE
   Disposition:

2189-01-31 09:03:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2189-1-30**] 11:24 AM
   sent off from aline and triple lumen cath
 DIALYSIS CATHETER - START [**2189-1-30**] 06:34 PM; HD catheter placed in
   IR last pm
   PTC tube changed to 10 French
   ERCP stent removed as suboptimally positioned
   On  neo overnight albeit able to wean off this morning.
   Positive 8L over past 24 hours
   Patient unable to provide history: Sedated, Intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2189-1-30**] 08:30 AM
   Linezolid - [**2189-1-30**] 09:50 PM
   Meropenem - [**2189-1-31**] 08:00 AM
   Infusions:
   Phenylephrine - 0.5 mcg/Kg/min
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Amiodarone - [**2189-1-31**] 01:24 AM
   Pantoprazole (Protonix) - [**2189-1-31**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2189-1-31**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-1-31**] 09:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**91**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37
C (98.6
   HR: 139 (131 - 145) bpm
   BP: 127/66(85) {89/49(61) - 173/84(114)} mmHg
   RR: 22 (15 - 26) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106.5 kg (admission): 96.6 kg
   Height: 63 Inch
   CVP: 14 (7 - 17)mmHg
   Total In:
                                                                  7,584 mL
                                                                  1,337 mL
   PO:
   TF:
   IVF:
                                                                  7,584 mL
                                                                  1,337 mL
   Blood products:
   Total out:
                                                                    265 mL
                                                                    110 mL
   Urine:
                                                                    100 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
                                                                    165 mL
                                                                    100 mL
   Balance:
                                                                  7,319 mL
                                                                  1,227 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 530 (0 - 530) mL
   PS : 15 cmH2O
   RR (Set): 24
   RR (Spontaneous): 22
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 24 cmH2O
   Plateau: 24 cmH2O
   Compliance: 31.3 cmH2O/mL
   SpO2: 98%
   ABG: 7.36/35/98.[**Numeric Identifier 176**]/19/-4
   Ve: 11.4 L/min
   PaO2 / FiO2: 245
   Physical Examination
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : scattered over
   anterior, Diminished: )
   Abdominal: Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, 2+ anasarca
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   149 K/uL
   216 mg/dL
   2.5 mg/dL
   19 mEq/L
   4.0 mEq/L
   45 mg/dL
   106 mEq/L
   136 mEq/L
   24.9 %
   13.0 K/uL
        [image002.jpg]
                             [**2189-1-30**]  02:25 AM
                             [**2189-1-30**]  02:47 AM
                             [**2189-1-30**]  04:40 AM
                             [**2189-1-30**]  10:45 AM
                             [**2189-1-30**]  11:23 AM
                             [**2189-1-30**]  12:57 PM
                             [**2189-1-30**]  05:43 PM
                             [**2189-1-31**]  04:34 AM
                             [**2189-1-31**]  04:43 AM
                             [**2189-1-31**]  08:01 AM
   WBC
   31.5
   13.0
   Hct
   29.9
   24.9
   Plt
   159
   149
   Cr
   2.3
   2.3
   2.5
   TropT
   0.41
   0.34
   TCO2
   18
   17
   21
   20
   20
   22
   21
   Glucose
   194
   350
   216
   Other labs: PT / PTT / INR:11.9/33.6/1.0, CK / CKMB /
   Troponin-T:37/6/0.34, ALT / AST:19/19, Alk Phos / T Bili:321/2.0,
   Amylase / Lipase:34/21, Differential-Neuts:80.0 %, Band:10.0 %,
   Lymph:5.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:514 mg/dL, Lactic
   Acid:2.7 mmol/L, Albumin:1.8 g/dL, LDH:305 IU/L, Ca++:6.7 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.9 mg/dL
   Imaging: Portable CXR: ETT, HD catheter and central line in good
   position
   Assessment and Plan
 SHOCK, SEPTIC:  WBC significantly decreased.  Started on linezolid
   yesterday.  Off pressors since early this morning.
 RENAL FAILURE, ACUTE:  Secondary to ATN.  Acidemia imroved with
   bicarb.  Renal service considering initiation of CVVP.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):  Weaned Fi02 tto 40%.
   Secretions minimal.  CXR consistent with edema, total body fluid
   overloaded.
 H/O FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN):
 ATRIAL FIBRILLATION/FLUTTER:  Continues on amiodarone drip.  Repeat
   ECG.  If still in fib/flutter consider starting diltiazem.
 ALTERED NUTRITION:  Plan to initiate tube feeds, check residuals.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2189-1-27**] 04:30 PM
   Arterial Line - [**2189-1-28**] 02:37 AM
   Multi Lumen - [**2189-1-28**] 10:24 PM
   Dialysis Catheter - [**2189-1-30**] 06:34 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2189-02-01 07:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: - continued A flutter rate 140s, continued amiodarone
   at 0.5mg/min
   - fam mtg: continue aggressive tx since she is showing mild signs of
   improvement (decreased vent settings, less pressors) and re-evaluate
   day by day, stop if clear that things are not going in right direction
   - started CVVH
   24 Hour Events:
 EKG - At [**2189-1-31**] 02:00 PM
 SPUTUM CULTURE - At [**2189-1-31**] 02:00 PM
 BLOOD CULTURED - At [**2189-1-31**] 03:31 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2189-1-30**] 08:30 AM
   Meropenem - [**2189-1-31**] 08:00 PM
   Linezolid - [**2189-1-31**] 11:00 PM
   Infusions:
   Phenylephrine - 0.5 mcg/Kg/min
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2189-1-31**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2189-2-1**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-2-1**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**91**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 35.2
C (95.3
   HR: 141 (121 - 148) bpm
   BP: 128/76(92) {94/59(71) - 141/83(103)} mmHg
   RR: 18 (18 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SVT (Supra Ventricular Tachycardia)
   Wgt (current): 106.5 kg (admission): 96.6 kg
   Height: 63 Inch
    CVP: 12 (10 - 145)mmHg
   Total In:
                                                                  3,376 mL
                                                                    833 mL
   PO:
   TF:
                                                                    268 mL
                                                                    195 mL
   IVF:
                                                                  2,989 mL
                                                                    638 mL
   Blood products:
   Total out:
                                                                  1,345 mL
                                                                    836 mL
   Urine:
                                                                     92 mL
                                                                     49 mL
   NG:
   Stool:
   Drains:
                                                                    250 mL
   Balance:
                                                                  2,031 mL
                                                                     -3 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 0 (0 - 577) mL
   PS : 15 cmH2O
   RR (Set): 24
   RR (Spontaneous): 21
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 55
   PIP: 31 cmH2O
   Plateau: 21 cmH2O
   SpO2: 100%
   ABG: 7.41/32/115/20/-2
   Ve: 13.7 L/min
   PaO2 / FiO2: 230
   Physical Examination
   General Appearance: Overweight / Obese, intubated
   Eyes / Conjunctiva: PERRL, scleral icterus
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), irregular, tachycardic, no
   m/r/g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear
   Abdominal: Hypoactive bowel sounds present, Distended, Non-Tender: ,
   Obese
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: eyes open spontaneously, tracks and moves head to her name,
   slight toe wiggling to command
   Labs / Radiology
   193 K/uL
   9.3 g/dL
   154 mg/dL
   2.0 mg/dL
   20 mEq/L
   4.0 mEq/L
   35 mg/dL
   102 mEq/L
   133 mEq/L
   28.4 %
   17.4 K/uL
        [image002.jpg]
                             [**2189-1-31**]  04:34 AM
                             [**2189-1-31**]  04:43 AM
                             [**2189-1-31**]  08:01 AM
                             [**2189-1-31**]  09:34 AM
                             [**2189-1-31**]  03:06 PM
                             [**2189-1-31**]  03:25 PM
                             [**2189-1-31**]  10:04 PM
                             [**2189-1-31**]  10:14 PM
                             [**2189-2-1**]  03:58 AM
                             [**2189-2-1**]  04:05 AM
   WBC
   13.0
   15.9
   17.4
   Hct
   24.9
   26.7
   28.4
   Plt
   149
   187
   193
   Cr
   2.5
   2.7
   2.3
   2.0
   TCO2
   22
   21
   21
   22
   21
   21
   Glucose
   [**Telephone/Fax (3) 12959**]54
   Other labs: PT / PTT / INR:11.9/33.6/1.0, CK / CKMB /
   Troponin-T:37/6/0.34, ALT / AST:20/20, Alk Phos / T Bili:301/2.8,
   LDH:376 IU/L, Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:3.4 mg/dL
[**2189-1-30**] 12:10 am BILE
   GRAM STAIN (Final [**2189-1-30**]):
      2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS.
[**2189-1-31**] 1:41 pm SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2189-1-31**]):
      >25 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE.
   CXR [**1-31**]
   Extensive consolidation in the right lung has increased substantially
   since
   [**1-28**] and [**1-30**], accompanied by increasing moderate right
   pleural
   effusion most likely pneumonia, conceivably pulmonary hemorrhage. Left
   lower
   lobe is persistently consolidated, and accompanying small left pleural
   effusion unchanged. Severe cardiomegaly is stable as is vascular
   congestion
   in the left lung. ET tube ends at the upper margin of the clavicles, no
   less
   than 6.5 cm from the carina, 3 cm above optimal placement. New
   dual-channel
   right supraclavicular central venous line ends in the low SVC alongside
   an
   indwelling left internal jugular line. Moderate to severe cardiomegaly
   is
   unchanged.
   Assessment and Plan
   A/P:  Pt is a 75 yo female with history of CHF, COPD, DM2,
   schizophrenia who presented with gram-negative sepsis, requiring
   vasopressors, now found to have increasing LFTs in a cholestatic
   pattern with GNR and GPC bacteremia.
   .
   # Septic Shock:  E. coli and now VRE bacteremia.  Most likely source is
   cholangitis.  s/p percut drain placement, still unable to remove large
   gallstones. White count cont to be elevated, now slightly trending up
   again after improvement on linezolid.  Having loose stool despite
   holding lactulose. Still requiring neo to maintain pressures, but
   tolerating diuresis with CVVH. Afebrile on CVVH.
   - cont linezolide d3/14
   - continue [**Last Name (un) 614**] for broad gram negative rod coverage
   - send C. dif given loose stool and increased leukocytosis
   - consider Flagyl if decompensates
   - send fungal markers
   - trend LFTs daily
   - add on diff
   - consider ID consult
   - cholecystectomy when stable
   - appreciate surgery recs
   .
   #Hypoxic and Hypercapneic respiratory faillure:  Patient was electively
   intubated for ERCP [**2-3**]
increased abdominal girth.
  She returned to
   the floor intubated, somnolent.  It is unclear what was used to sedate
   her for the procedure, however she remained somnolent on the floor and,
   on [**5-6**], after several hours was noted to have
air hunger,
 at this
   time an ABG was checked which revealed acidemia and hypercapnea.  Did
   well on PSV trial, however overall severe sepsis makes extubation now
   less of a priority.
    - daily SBTs
   .
   # Hyperchloremic, non-gap metabolic acidosis
 Nearly resolved with d5
   and bicarb, better treatment of infection
   .
   #AMS:  Likely multifactorial with toxic metabolic in the setting of
   sepsis, retained sedatives in the setting of renal and hepatic faillure
   and hypercapnea in the setting of respiratory faillure,  also with
   elevated ammonia concerning for hepatic encephalopathy.
   -Head CT WNL
   -treat underlying causes as noted elsewhere
   .
   #Anuric [**Last Name (un) **]:  Suspect ischemic ATN with multiple hypotensive episodes
   at OSH requiring pressors and again at ERCP on the 26^th.  Had recent
   creatinine bump at OSH that had been trending down.  Muddy brown casts
   on urine sediment. Started CVVH yesterday, tolerated neg balance with
   Neo.
   - appreciate renal recs
   - UF 50cc negative/hr as tolerated
   - renally dose meds
   .
   #  SVT- likely AVRT/AVNRT in morning, response to vagal maneuver.  H/O
   MAT.  Recurrent episode of AVRT/AVNRT in evening, with subsequent a.
   flutter noted following adenosine.  Evidence of MAT on repeat ECG.
   Completed IV amio load. On Neo, avoid Levo given SVT.
   - transition to PO amiodarone given tolerating tube feeds now, start at
   200 mg [**Hospital1 7**]
   - if able to taper off pressors, consider transitioning to CCB
   .
   # ?hepatic dysfunction: Patient with low albumin, poor coags, physical
   stigmata of telangectasia
s and palmar erythema, and a mildly elevated
   amonia of 65, cirrhosis is a possiblity.  Not mentioned on RUQ u/s at
   OSH.  Repeat abdominal u/s shows no evidence of cirrhosis by report.
   .
   # Coagulopathy:  [**Month (only) 51**] be related to liver dysfunction but coagulopathy
   responded to vitamin K.  Overall dysfunction likely [**2-3**]  septic shock
   and possible low grade DIC.  No active hemorrhage.
   .
   # Demand ischemia:  Trop I had trended down at OSH.  Trop elevated
   again in setting of recent SVTs then trended down.
   .
   # COPD:
   - serial CXR
   - nebulizers prn
   - cont. Advair
   .
   # Schizophrenia:
   - cont home antipsychotics
   - hold neurontin for now given mental status
   .
   #  DM2
   - insulin SS
   .
   #  Gastritis/PUD
   - cont. protonix
   .
   # FEN:
   # PPx:  pneumoboots and SC heparin, bowel regimen, pantoprazole
   .
   Access:  two PIVs, A-line, CVL, HD line
   Code:  full code
   Contact:  Daughter [**Name (NI) **] (HCP) [**Telephone/Fax (1) 12841**]
   ICU Care
   Nutrition: TF at goal
   Glycemic Control:
   Lines:
   20 Gauge - [**2189-1-27**] 04:30 PM
   Arterial Line - [**2189-1-28**] 02:37 AM
   Multi Lumen - [**2189-1-28**] 10:24 PM
   Prophylaxis:
   DVT:  heparin
   Stress ulcer: Pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  FULL CODE
   Disposition: ICU

2189-02-01 09:31:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2189-1-31**] 02:00 PM
 SPUTUM CULTURE - At [**2189-1-31**] 02:00 PM
 BLOOD CULTURED - At [**2189-1-31**] 03:31 PM
   CVVH initiated
   Family meeting yesterday with housestaff and patient's children
   Continues to require low-dose neo
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2189-1-30**] 08:30 AM
   Linezolid - [**2189-1-31**] 11:00 PM
   Meropenem - [**2189-2-1**] 08:00 AM
   Infusions:
   Phenylephrine - 0.5 mcg/Kg/min
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2189-2-1**] 08:00 AM
   Pantoprazole (Protonix) - [**2189-2-1**] 08:51 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Nutritional Support: No(t) NPO, Tube feeds
   Gastrointestinal: Diarrhea
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2189-2-1**] 09:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**91**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.2
C (97.1
   HR: 143 (121 - 148) bpm
   BP: 125/70(87) {94/60(71) - 141/83(103)} mmHg
   RR: 19 (18 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SVT (Supra Ventricular Tachycardia)
   Wgt (current): 106.5 kg (admission): 96.6 kg
   Height: 63 Inch
   CVP: 8 (8 - 145)mmHg
   Total In:
                                                                  3,376 mL
                                                                    988 mL
   PO:
   TF:
                                                                    268 mL
                                                                    195 mL
   IVF:
                                                                  2,989 mL
                                                                    792 mL
   Blood products:
   Total out:
                                                                  1,345 mL
                                                                    857 mL
   Urine:
                                                                     92 mL
                                                                     70 mL
   NG:
   Stool:
   Drains:
                                                                    250 mL
   Balance:
                                                                  2,031 mL
                                                                    131 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 516 (0 - 577) mL
   PS : 15 cmH2O
   RR (Set): 24
   RR (Spontaneous): 25
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 55
   PIP: 24 cmH2O
   Plateau: 21 cmH2O
   SpO2: 100%
   ABG: 7.41/32/115/20/-2
   Ve: 12.6 L/min
   PaO2 / FiO2: 230
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : occasional, Diminished:
   dependently)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   193 K/uL
   154 mg/dL
   2.0 mg/dL
   20 mEq/L
   4.0 mEq/L
   35 mg/dL
   102 mEq/L
   133 mEq/L
   28.4 %
   17.4 K/uL
        [image002.jpg]
                             [**2189-1-31**]  04:34 AM
                             [**2189-1-31**]  04:43 AM
                             [**2189-1-31**]  08:01 AM
                             [**2189-1-31**]  09:34 AM
                             [**2189-1-31**]  03:06 PM
                             [**2189-1-31**]  03:25 PM
                             [**2189-1-31**]  10:04 PM
                             [**2189-1-31**]  10:14 PM
                             [**2189-2-1**]  03:58 AM
                             [**2189-2-1**]  04:05 AM
   WBC
   13.0
   15.9
   17.4
   Hct
   24.9
   26.7
   28.4
   Plt
   149
   187
   193
   Cr
   2.5
   2.7
   2.3
   2.0
   TCO2
   22
   21
   21
   22
   21
   21
   Glucose
   [**Telephone/Fax (3) 12959**]54
   Other labs: PT / PTT / INR:11.9/33.6/1.0, CK / CKMB /
   Troponin-T:37/6/0.34, ALT / AST:20/20, Alk Phos / T Bili:301/2.8,
   Amylase / Lipase:34/21, Differential-Neuts:80.0 %, Band:10.0 %,
   Lymph:5.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:514 mg/dL, Lactic
   Acid:2.2 mmol/L, Albumin:1.8 g/dL, LDH:376 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Fluid analysis / Other labs: Bile:  GPC
   Assessment and Plan
 SHOCK, SEPTIC:  Cholangitis, biliary sepsis status post CBD stent,
   retained stone.  WBC drifting back up, will check a repeat
   differential.  Abdominal exam benign and unchanged.  Still requiring
   low-dose neo.  Repeat blood/urine/bile cultures sent. Continue current
   antibiotics.
 DIARRHEA:  Send stool for C.diff given rising WBC.
 ACUTE RENAL FAILURE:  Secondary to ATN. No started on CVVH. Plan for
   gradual removal of volume albeit this will be slow given poor
   nutritional status, low albumin.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):  Reasons for difficutly to
   wean is multi-factorial.  Mostly limited by volume overload and
   possible VAP.  Sputum gram stain and culture sent again given rising
   WBC to see if there is a new organism not covered by broad spectrum
   antibiotics.
 ATIAL FIBRILLATION/FLUTTER:  Plan to change amiodarone drip to per
   NGT now that she is tolerating tube feeds.
 ALTERED NUTRITIONAL STATUS:  Tolerating initiation of tube feeds
   without residuals.  Titrate to goal.
 ALTERED MENTAL STATUS (NOT DELIRIUM):  Following simple commands
   (wiggle toes) intermittently.  Remains off sedation, appears
   comfortable.
   ICU Care
   Nutrition:
   Comments: Tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2189-1-28**] 02:37 AM
   Multi Lumen - [**2189-1-28**] 10:24 PM
   Dialysis Catheter - [**2189-1-30**] 06:34 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2189-02-02 06:59:00 Physician Resident Progress Note
Chief Complaint: Biliary sepsis/hypoxic respiratory failure
   24 Hour Events:
 BLOOD CULTURED - At [**2189-2-2**] 05:04 AM
 STOOL CULTURE - At [**2189-2-2**] 06:06 AM
   [**2189-2-1**]:
   - cont CVVH on neo
   - no new ERCP, Surgery, or Renal recs
   - converted amio gtt to PO
   - no new culture data
   - converted to NSR
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2189-1-30**] 08:30 AM
   Meropenem - [**2189-2-1**] 08:00 PM
   Linezolid - [**2189-2-1**] 10:00 PM
   Infusions:
   Phenylephrine - 0.3 mcg/Kg/min
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2189-2-1**] 08:51 AM
   Fentanyl - [**2189-2-1**] 03:50 PM
   Heparin Sodium (Prophylaxis) - [**2189-2-2**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Intubated and sedated.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Flowsheet Data as of  [**2189-2-2**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**91**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.9
   HR: 71 (71 - 152) bpm
   BP: 113/49(69) {99/46(63) - 131/70(89)} mmHg
   RR: 20 (18 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113 kg (admission): 96.6 kg
   Height: 63 Inch
    CVP: 10 (8 - 15)mmHg
   Total In:
                                                                  4,778 mL
                                                                  1,327 mL
   PO:
   TF:
                                                                    848 mL
                                                                    310 mL
   IVF:
                                                                  3,640 mL
                                                                    697 mL
   Blood products:
   Total out:
                                                                  5,100 mL
                                                                  1,511 mL
   Urine:
                                                                    128 mL
                                                                     29 mL
   NG:
   Stool:
   Drains:
                                                                    375 mL
   Balance:
                                                                   -322 mL
                                                                   -184 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 439 (439 - 544) mL
   PS : 15 cmH2O
   RR (Spontaneous): 22
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 56
   PIP: 22 cmH2O
   SpO2: 100%
   ABG: 7.45/33/115/22/0
   Ve: 15.5 L/min
   PaO2 / FiO2: 230
   Physical Examination
   GEN: Intubated not sedated elderly woman with anasarca in NAD, unable
   to follow commands.
   HEENT: MMM, oropharynx clear
   CV: RRR, no RMG
   PULM: CTAB, no WRR
   ABD: Soft, NTND, quiet bowel sounds, no guarding.
   EXT: 2+ pitting edema of upper and lower extremities bilaterally.
   NEURO: Responds to voice, able to move all four extremities, PERRLA
   Labs / Radiology
   CXR AP [**2189-2-1**]:
   Substantial improvement in the still severe but now peripheral
   opacification
   in the right upper lobe is most likely due to improving edema, less
   likely
   pulmonary hemorrhage, and not pneumonia given the rapid resolution.
   Severe
   cardiomegaly if anything has worsened and there is still a large left
   pleural
   effusion and small right pleural effusion and generalized pulmonary
   vascular
   engorgement. ET tube is in standard placement. Bilateral internal
   jugular
   lines end in the SVC. No pneumothorax.
   238 K/uL
   7.8 g/dL
   99 mg/dL
   1.4 mg/dL
   22 mEq/L
   3.6 mEq/L
   25 mg/dL
   99 mEq/L
   131 mEq/L
   25.0 %
   14.3 K/uL
        [image002.jpg]
                             [**2189-1-31**]  10:14 PM
                             [**2189-2-1**]  03:58 AM
                             [**2189-2-1**]  04:05 AM
                             [**2189-2-1**]  10:56 AM
                             [**2189-2-1**]  11:26 AM
                             [**2189-2-1**]  05:23 PM
                             [**2189-2-1**]  05:36 PM
                             [**2189-2-1**]  11:06 PM
                             [**2189-2-2**]  04:58 AM
                             [**2189-2-2**]  05:06 AM
   WBC
   17.4
   14.3
   Hct
   28.4
   25.0
   Plt
   193
   238
   Cr
   2.0
   1.8
   1.4
   TCO2
   21
   21
   20
   22
   25
   24
   Glucose
   154
   148
   105
   99
   Other labs: PT / PTT / INR:11.4/35.1/0.9, CK / CKMB /
   Troponin-T:37/6/0.34, ALT / AST:18/20, Alk Phos / T Bili:238/2.2,
   Amylase / Lipase:34/27, Differential-Neuts:89.0 %, Band:3.0 %,
   Lymph:4.0 %, Mono:1.0 %, Eos:1.0 %, Fibrinogen:514 mg/dL, Lactic
   Acid:2.2 mmol/L, Albumin:1.8 g/dL, LDH:336 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 SHOCK, SEPTIC
 OLIGURIA/ANURIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 TACHYCARDIA, OTHER
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 .H/O FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ACUTE ON CHRONIC DIASTOLIC HEART FAILURE
   Assessment and Plan
   A/P:  Pt is a 75 yo female with history of CHF, COPD, DM2,
   schizophrenia who presented with gram-negative sepsis, requiring
   vasopressors, now found to have increasing LFTs in a cholestatic
   pattern with GNR and GPC bacteremia.
   .
   # Septic Shock:  E. coli and now VRE bacteremia.  Most likely source is
   cholangitis.  s/p percut drain placement, still unable to remove large
   gallstones. White count cont to be elevated, fortunately trending down.
   Having loose stool despite holding lactulose. Still requiring neo to
   maintain pressures, but tolerating diuresis with CVVH. Afebrile on
   CVVH.
   - cont linezolide d3/14
   - continue [**Last Name (un) 614**] for broad gram negative rod coverage
   - send C. dif given loose stool and increased leukocytosis
   - consider Flagyl if decompensates
   - send fungal markers
   - trend LFTs daily
   - cholecystectomy when stable
   - appreciate surgery recs
   .
   # Acute on chronic diastolic congestive heart failure: Patient has been
   20L positive since admission due to aggressive rescuscitation for
   sepsis. Currently pt is significantly volume overloaded, and this AM
   CXR shows worsening fluid overload. Fortunately, pt
s respiratory
   status is stable only requiring FiO2 of 50%. Nonetheless, pt would
   likely improve significantly in terms of respiratory status and in
   general after diuresis.
   - Aim for goal negative 200cc/hr via CVVH
   - Wean off neosynephrine as BPs allow but would prioritize diuresis
   over weaning pressors
   - Wean off ventilators to goal PIP/PEEP of [**5-6**] and as pt tolerates
   - Consider extubation tomorrow after SBT
   #Hypoxic and Hypercapneic respiratory faillure:  Patient was electively
   intubated for ERCP [**2-3**]
increased abdominal girth.
  She returned to
   the floor intubated, somnolent.  It is unclear what was used to sedate
   her for the procedure, however she remained somnolent on the floor and,
   on [**5-6**], after several hours was noted to have
air hunger,
 at this
   time an ABG was checked which revealed acidemia and hypercapnea.  Did
   well on PSV trial, however overall severe sepsis makes extubation now
   less of a priority.
    - daily SBTs
   - Wean to 5/5 per above.
   - If pt becomes agitated would favor propofol over fentanyl/midazolam.
   If forced to use midazolam/fentanyl would use in boluses rather than
   drip.
   .
   # Hyperchloremic, non-gap metabolic acidosis
 Nearly resolved with d5
   and bicarb, better treatment of infection
   .
   #AMS:  Likely multifactorial with toxic metabolic in the setting of
   sepsis, retained sedatives in the setting of renal and hepatic faillure
   and hypercapnea in the setting of respiratory faillure,  also with
   elevated ammonia concerning for hepatic encephalopathy. Head CT WNL
   -treat underlying causes as noted elsewhere
   -Will consider antipsychotics if pt becomes delirious given strong
   psych history
   .
   #Anuric [**Last Name (un) **]:  Suspect ischemic ATN with multiple hypotensive episodes
   at OSH requiring pressors and again at ERCP on the 26^th.  Had recent
   creatinine bump at OSH that had been trending down.  Muddy brown casts
   on urine sediment. Started CVVH yesterday, tolerated neg balance with
   Neo.
   - appreciate renal recs
   - UF 50cc negative/hr as tolerated
   - renally dose meds
   .
   #  SVT- likely AVRT/AVNRT in morning, response to vagal maneuver.  H/O
   MAT.  Recurrent episode of AVRT/AVNRT in evening, with subsequent a.
   flutter noted following adenosine.  Evidence of MAT on repeat ECG.
   Completed IV amio load. On Neo, avoid Levo given SVT.
   - Continue PO amiodarone given tolerating tube feeds now, start at 200
   mg [**Hospital1 7**]
   - if able to taper off pressors, consider transitioning to CCB
   .
   # ?hepatic dysfunction: Patient with low albumin, poor coags, physical
   stigmata of telangectasia
s and palmar erythema, and a mildly elevated
   amonia of 65, cirrhosis is a possiblity.  Not mentioned on RUQ u/s at
   OSH.  Repeat abdominal u/s shows no evidence of cirrhosis by report.
   Her decompensated cirrhotic picture may have been a sequealae of
   sepsis.
   .
   # Coagulopathy:  [**Month (only) 51**] be related to liver dysfunction but coagulopathy
   responded to vitamin K.  Overall dysfunction likely [**2-3**]  septic shock
   and possible low grade DIC.  No active hemorrhage.
   .
   # Demand ischemia:  Trop I had trended down at OSH.  Trop elevated
   again in setting of recent SVTs then trended down.
   .
   # COPD:
   - serial CXR
   - nebulizers prn
   - cont. Advair
   .
   # Schizophrenia:
   - cont home antipsychotics
   - hold neurontin for now given mental status
   .
   #  DM2
   - insulin SS
   .
   #  Gastritis/PUD
   - cont. protonix
   .
   # FEN: Continue tube feeds
   # PPx:  pneumoboots and SC heparin, bowel regimen, pantoprazole
   .
   Access:  A-line, CVL, HD line
   Code:  full code
   Contact:  Daughter [**Name (NI) **] (HCP) [**Telephone/Fax (1) 12841**]
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2189-2-2**] 01:44 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2189-1-28**] 02:37 AM
   Multi Lumen - [**2189-1-28**] 10:24 PM
   Dialysis Catheter - [**2189-1-30**] 06:34 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2189-02-03 07:50:00 Physician Resident Progress Note
Chief Complaint: cholangitis, c/b sepsis
   24 Hour Events:
 BLOOD CULTURED - At [**2189-2-3**] 05:00 AM
   - Has been negative from CVVH
   - Was off pressors initially throughout the day but needed to be back
   on after 4L diuresis in order to maintain diuresis
   - Had a HCT drop from 25-21, receiving 1 unit PRBCs, increased protonix
   from 40mg IV Q24 to 40mg IV Q12H, guiacing stools
   - echo EF 60%, mild-mod MR, largely unremarkable
   -CV O2 sat 80
   has not needed any sedation
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2189-2-2**] 08:00 PM
   Linezolid - [**2189-2-2**] 10:00 PM
   Infusions:
   Phenylephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2189-2-2**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2189-2-3**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   intubated
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Flowsheet Data as of  [**2189-2-3**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**91**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.5
C (97.7
   HR: 70 (65 - 91) bpm
   BP: 103/40(57) {82/40(53) - 140/66(89)} mmHg
   RR: 18 (11 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113 kg (admission): 96.6 kg
   Height: 63 Inch
    CVP: 6 (5 - 12)mmHg
   Mixed Venous O2% Sat: 80 - 80
   Total In:
                                                                  5,189 mL
                                                                  1,498 mL
   PO:
   TF:
                                                                  1,081 mL
                                                                    346 mL
   IVF:
                                                                  3,088 mL
                                                                  1,093 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  9,139 mL
                                                                  2,130 mL
   Urine:
                                                                     89 mL
                                                                     48 mL
   NG:
   Stool:
   Drains:
                                                                    285 mL
   Balance:
                                                                 -3,950 mL
                                                                   -632 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 419 (58 - 619) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 37
   PIP: 17 cmH2O
   SpO2: 100%
   ABG: 7.40/43/140/27/1
   Ve: 11.4 L/min
   PaO2 / FiO2: 280
   Physical Examination
   General Appearance: anasarcic
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, No(t) Sedated, No(t) Paralyzed, Tone:
   Not assessed
   Labs / Radiology
   193 K/uL
   8.4 g/dL
   116 mg/dL
   1.0 mg/dL
   27 mEq/L
   3.4 mEq/L
   17 mg/dL
   98 mEq/L
   131 mEq/L
   25.4 %
   11.1 K/uL
        [image002.jpg]
                             [**2189-2-2**]  05:06 AM
                             [**2189-2-2**]  11:26 AM
                             [**2189-2-2**]  11:45 AM
                             [**2189-2-2**]  05:15 PM
                             [**2189-2-2**]  05:45 PM
                             [**2189-2-2**]  11:08 PM
                             [**2189-2-2**]  11:20 PM
                             [**2189-2-3**]  01:07 AM
                             [**2189-2-3**]  05:05 AM
                             [**2189-2-3**]  05:13 AM
   WBC
   11.1
   Hct
   21.6
   24.6
   25.4
   Plt
   193
   Cr
   1.1
   1.0
   1.0
   TCO2
   24
   25
   26
   27
   28
   Glucose
   136
   115
   116
   116
   Other labs: PT / PTT / INR:11.5/32.3/1.0, CK / CKMB /
   Troponin-T:37/6/0.34, ALT / AST:18/22, Alk Phos / T Bili:211/2.2,
   Amylase / Lipase:34/27, Differential-Neuts:86.0 %, Band:2.0 %,
   Lymph:3.0 %, Mono:6.0 %, Eos:3.0 %, Fibrinogen:514 mg/dL, Lactic
   Acid:1.8 mmol/L, Albumin:1.5 g/dL, LDH:314 IU/L, Ca++:7.5 mg/dL,
   Mg++:1.8 mg/dL, PO4:1.7 mg/dL
   Microbiology: cdiff negative x2
   Assessment and Plan
 ANEMIA, OTHER
 SHOCK, SEPTIC
 OLIGURIA/ANURIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 TACHYCARDIA, OTHER
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 .H/O FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   A/P:  75F dementia / schizophrenia admitted with biliary sepsis c/b
   septic shock, ARF, PCT biliary drain, amio for SVT.
   .
   # Septic Shock:  E. coli and now VRE bacteremia.  Most likely source is
   cholangitis.  s/p percut drain placement, still unable to remove large
   gallstones. White count cont to be elevated, fortunately trending down.
   Having loose stool despite holding lactulose. Still requiring neo to
   maintain pressures, but tolerating diuresis with CVVH. Afebrile on
   CVVH.
   - cont linezolide d3/14
   - continue [**Last Name (un) 614**] for broad gram negative rod coverage
   - send C. dif given loose stool and increased leukocytosis
   - consider Flagyl if decompensates
   - send fungal markers
   - trend LFTs daily
   - cholecystectomy when stable
   - appreciate surgery recs
   .
   # Acute on chronic diastolic congestive heart failure: Patient has been
   20L positive since admission due to aggressive rescuscitation for
   sepsis. Currently pt is significantly volume overloaded, and this AM
   CXR shows worsening fluid overload. Fortunately, pt
s respiratory
   status is stable only requiring FiO2 of 50%. Nonetheless, pt would
   likely improve significantly in terms of respiratory status and in
   general after diuresis.
   - Aim for goal negative 200cc/hr via CVVH
   - Wean off neosynephrine as BPs allow but would prioritize diuresis
   over weaning pressors
   - Wean off ventilators to goal PIP/PEEP of [**5-6**] and as pt tolerates
   - Consider extubation tomorrow after SBT
   #Hypoxic and Hypercapneic respiratory faillure:  Patient was electively
   intubated for ERCP [**2-3**]
increased abdominal girth.
  She returned to
   the floor intubated, somnolent.  It is unclear what was used to sedate
   her for the procedure, however she remained somnolent on the floor and,
   on [**5-6**], after several hours was noted to have
air hunger,
 at this
   time an ABG was checked which revealed acidemia and hypercapnea.  Did
   well on PSV trial, however overall severe sepsis makes extubation now
   less of a priority.
    - daily SBTs
   - Wean to 5/5 per above.
   - If pt becomes agitated would favor propofol over fentanyl/midazolam.
   If forced to use midazolam/fentanyl would use in boluses rather than
   drip.
   .
   # Hyperchloremic, non-gap metabolic acidosis
 Nearly resolved with d5
   and bicarb, better treatment of infection
   .
   #AMS:  Likely multifactorial with toxic metabolic in the setting of
   sepsis, retained sedatives in the setting of renal and hepatic faillure
   and hypercapnea in the setting of respiratory faillure,  also with
   elevated ammonia concerning for hepatic encephalopathy. Head CT WNL
   -treat underlying causes as noted elsewhere
   -Will consider antipsychotics if pt becomes delirious given strong
   psych history
   .
   #Anuric [**Last Name (un) **]:  Suspect ischemic ATN with multiple hypotensive episodes
   at OSH requiring pressors and again at ERCP on the 26^th.  Had recent
   creatinine bump at OSH that had been trending down.  Muddy brown casts
   on urine sediment. Started CVVH yesterday, tolerated neg balance with
   Neo.
   - appreciate renal recs
   - UF 50cc negative/hr as tolerated
   - renally dose meds
   .
   #  SVT- likely AVRT/AVNRT in morning, response to vagal maneuver.  H/O
   MAT.  Recurrent episode of AVRT/AVNRT in evening, with subsequent a.
   flutter noted following adenosine.  Evidence of MAT on repeat ECG.
   Completed IV amio load. On Neo, avoid Levo given SVT.
   - Continue PO amiodarone given tolerating tube feeds now, start at 200
   mg [**Hospital1 7**]
   - if able to taper off pressors, consider transitioning to CCB
   .
   # ?hepatic dysfunction: Patient with low albumin, poor coags, physical
   stigmata of telangectasia
s and palmar erythema, and a mildly elevated
   amonia of 65, cirrhosis is a possiblity.  Not mentioned on RUQ u/s at
   OSH.  Repeat abdominal u/s shows no evidence of cirrhosis by report.
   Her decompensated cirrhotic picture may have been a sequealae of
   sepsis.
   .
   # Coagulopathy:  [**Month (only) 51**] be related to liver dysfunction but coagulopathy
   responded to vitamin K.  Overall dysfunction likely [**2-3**]  septic shock
   and possible low grade DIC.  No active hemorrhage.
   .
   # Demand ischemia:  Trop I had trended down at OSH.  Trop elevated
   again in setting of recent SVTs then trended down.
   .
   # COPD:
   - serial CXR
   - nebulizers prn
   - cont. Advair
   .
   # Schizophrenia:
   - cont home antipsychotics
   - hold neurontin for now given mental status
   .
   #  DM2
   - insulin SS
   .
   #  Gastritis/PUD
   - cont. protonix
   .
   # FEN: Continue tube feeds
   # PPx:  pneumoboots and SC heparin, bowel regimen, pantoprazole
   .
   Access:  A-line, CVL, HD line
   Code:  full code
   Contact:  Daughter [**Name (NI) **] (HCP) [**Telephone/Fax (1) 12841**]
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2189-2-3**] 04:18 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2189-1-28**] 02:37 AM
   Multi Lumen - [**2189-1-28**] 10:24 PM
   Dialysis Catheter - [**2189-1-30**] 06:34 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2189-02-04 06:56:00 Physician Resident Progress Note
Chief Complaint: Fever, dyspnea
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2189-2-3**] 02:45 PM
   [**2189-2-4**]
   -transfusing 1 unit pRBCS for hct 19
   -passed SBT, RISBI 68
   -weaning propofal
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2189-2-3**] 08:04 PM
   Linezolid - [**2189-2-3**] 09:30 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2189-2-3**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2189-2-4**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-2-4**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**91**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35
C (95
   HR: 64 (64 - 79) bpm
   BP: 112/53(73) {92/38(54) - 136/61(84)} mmHg
   RR: 15 (15 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113 kg (admission): 96.6 kg
   Height: 63 Inch
    CVP: 10 (9 - 11)mmHg
   Total In:
                                                                  6,900 mL
                                                                  1,233 mL
   PO:
   TF:
                                                                    540 mL
   IVF:
                                                                  6,070 mL
                                                                  1,188 mL
   Blood products:
   Total out:
                                                                  8,392 mL
                                                                  3,427 mL
   Urine:
                                                                    119 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
                                                                    100 mL
                                                                    125 mL
   Balance:
                                                                 -1,492 mL
                                                                 -2,194 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: Standby
   Vt (Spontaneous): 485 (404 - 546) mL
   PS : 10 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 36
   PIP: 18 cmH2O
   SpO2: 100%
   ABG: 7.48/34/86/24/2
   Ve: 11.5 L/min
   PaO2 / FiO2: 172
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   130 K/uL
   7.4 g/dL
   96 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.5 mEq/L
   12 mg/dL
   101 mEq/L
   132 mEq/L
   22.1 %
   4.7 K/uL
        [image002.jpg]
                             [**2189-2-3**]  05:13 AM
                             [**2189-2-3**]  12:14 PM
                             [**2189-2-3**]  12:37 PM
                             [**2189-2-3**]  05:32 PM
                             [**2189-2-3**]  05:46 PM
                             [**2189-2-4**]  12:11 AM
                             [**2189-2-4**]  12:23 AM
                             [**2189-2-4**]  02:34 AM
                             [**2189-2-4**]  05:26 AM
                             [**2189-2-4**]  05:52 AM
   WBC
   6.5
   4.7
   Hct
   22.1
   22.1
   22.1
   Plt
   160
   130
   Cr
   0.9
   0.7
   TCO2
   28
   25
   24
   25
   25
   26
   Glucose
   138
   104
   113
   96
   Other labs: PT / PTT / INR:11.7/33.6/1.0, CK / CKMB /
   Troponin-T:37/6/0.34, ALT / AST:17/22, Alk Phos / T Bili:184/1.7,
   Amylase / Lipase:34/27, Differential-Neuts:80.3 %, Band:2.0 %,
   Lymph:14.3 %, Mono:3.6 %, Eos:1.8 %, Fibrinogen:514 mg/dL, Lactic
   Acid:1.8 mmol/L, Albumin:1.5 g/dL, LDH:298 IU/L, Ca++:7.0 mg/dL,
   Mg++:1.7 mg/dL, PO4:1.4 mg/dL
   Assessment and Plan
 ANEMIA, OTHER
 SHOCK, SEPTIC
 OLIGURIA/ANURIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 TACHYCARDIA, OTHER
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 .H/O FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   75F dementia / schizophrenia admitted with biliary sepsis c/b septic
   shock, ARF, improving on antibiotics, with PCT biliary drain, on CVVH
   and amio for SVT.
Bilary sepsis c/b retained stone
   Per GI, no ERCP for likely 10 wks
   Appreciate surgery recs
   Percutaneous drain in place and draining bilious fluid
 ANEMIA
   Microcytic, h/o PUD. Transfused 1 unit pRBCs
   - increased PPI to Q12
   - check pm hct
 SHOCK, SEPTIC
   [**2-3**] biliary sepsis from retained stone. Stone unable to be removed by
   ERCP. On Meropenem and Linezolid. [**2-3**] is day 5 of linezolid and day 10
   for meropenem.
   -still on low dose phenylephrine to keep MAP>60 in order to facilitate
   volume removal
   -C Diff negative
   -fungal culture negative
 OLIGURIA/ANURIA
   Suspect ischemic ATN. On CVVH. Still oliguric.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Plan to extubate today. Not sedated. Tolerated 90 minute SBT without
   difficulty.
 TACHYCARDIA, OTHER
   SVT, now in NSR on amio
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
   EF 60%, stable
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Likely multifactorial with toxic metabolic in the setting of sepsis,
   retained sedatives in the setting of renal and ?hepatic faillure and
   hypercapnea in the setting of respiratory faillure,  also with elevated
   ammonia concerning for hepatic encephalopathy. Head CT WNL
   -monitor and reassess when extubated
   -Will restart some home meds
 abilify, but hold SSRI while on
   linezolid
   # ?hepatic dysfunction: Patient with low albumin, poor coags, physical
   stigmata of telangectasia
s and palmar erythema, and a mildly elevated
   amonia of 65, cirrhosis is a possiblity.  Not mentioned on RUQ u/s at
   OSH.  Repeat abdominal u/s shows no evidence of cirrhosis by report.
   Her decompensated cirrhotic picture may have been a sequealae of
   sepsis.
   # Coagulopathy:  [**Month (only) 51**] be related to liver dysfunction but coagulopathy
   responded to vitamin K.  Overall dysfunction likely [**2-3**]  septic shock
   and possible low grade DIC.  No active hemorrhage.
   # COPD:
   - serial CXR
   - nebulizers prn
   - cont. Advair
   #  DM2
   - insulin SS
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2189-2-3**] 04:18 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2189-1-28**] 02:37 AM
   Multi Lumen - [**2189-1-28**] 10:24 PM
   Dialysis Catheter - [**2189-1-30**] 06:34 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Daughter [**Name (NI) **] (HCP) [**Telephone/Fax (1) 12841**]
    Comments:
   Code status: Full Code
   Disposition:ICU
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 75F dementia / schizophrenia admitted with
   biliary sepsis c/b septic shock, ARF, has PCT biliary drain, amio for
   SVT. Was off pressors, now with low dose neo restarted to allow CVVH
   volume removal. Transfused 1 unit prbcs. Tolerating well PS/SBT.
   Exam notable for Tm 98.5 BP 120/40  HR 70  RR 20 with sat 100 on PSV
   [**10-6**] 0.5   7.40/43/140.   WD F, awake, alert, following simple
   commands. biliary drain. Coarse BS B. RRR s1s2. Soft +BS. 3+ edema.
   Labs notable for WBC 11.1K, HCT 25, K+ 3.4, na 131 (133) , Cr 1.0.
   Agree with plan to manage E. coli / VRE biliary sepsis c/b MOSF with
   [**Last Name (un) 614**] / linezolid for 14d course.  Hemodynamics improving, thoughs still
   requiring low dose vasopressor to maintain SBP >100, MAP > 55, to
   tolerate volume removal. TTE rather unimpressive.  Continue w/ biliary
   drain to gravity. Surgery and GI following.  D/w GI plan for repeat
   attempt at stone extraction via ercp as pt continues to improve. ARF
   likely ischemic [**2-3**] sepsis, RD meds, f/u c renal team. For volume
   overload / ARF, continue CVVH to remove volume 200-300cc/h as long as
   neo <0.5.  Did well on SBT and is awake and follows simple commands.
   WIll move to extubate.  MS clearing, but not yet to baseline. Reassess
   post extubation. Consider resuming psych meds once able to take POs
   (noting possible interaction btw ssri and linezolid). SVT has responded
   to amio - continue. Appropriate hct bump post transfusion. Continue to
   monitor, on PPI. ICU: Sq hep, full code, HD line and CVL. Can d/c
   a-line post extubation. Remainder of plan as outlined above.
   Patient is critically ill
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2189-1-28**] 02:37 AM
   Multi Lumen - [**2189-1-28**] 10:24 PM
   Dialysis Catheter - [**2189-1-30**] 06:34 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2189-02-04 13:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2189-2-3**] 02:45 PM
   Overnight, patient was extubated and abilify was started.  She remains
   off of pressors.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2189-2-4**] 08:00 AM
   Linezolid - [**2189-2-4**] 10:06 AM
   Infusions:
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2189-2-4**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-2-4**] 01:47 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**91**] AM
   Tmax: 35.6
C (96
   Tcurrent: 35.2
C (95.4
   HR: 66 (61 - 77) bpm
   BP: 118/48(71) {91/40(57) - 136/61(84)} mmHg
   RR: 25 (15 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113 kg (admission): 96.6 kg
   Height: 63 Inch
    CVP: 10 (7 - 12)mmHg
   Total In:
                                                                  6,901 mL
                                                                  4,693 mL
   PO:
   TF:
                                                                    540 mL
   IVF:
                                                                  6,071 mL
                                                                  4,458 mL
   Blood products:
   Total out:
                                                                  8,392 mL
                                                                  7,040 mL
   Urine:
                                                                    119 mL
                                                                     43 mL
   NG:
   Stool:
   Drains:
                                                                    100 mL
                                                                    125 mL
   Balance:
                                                                 -1,491 mL
                                                                 -2,347 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   FiO2: 50%
   SpO2: 100%
   ABG: 7.48/34/113/24/2
   PaO2 / FiO2: 226
   Physical Examination
   HEENT: Right dialysis line, LIJ line in place c/d/i
   CV: RR no murmurs
   Pulm: CTAB
   Abd: mild TTP at lower quadrant, no G/RT, non-distended, PTC drain in
   place
   Ext: trace edema
   Labs / Radiology
   130 K/uL
   7.4 g/dL
   133 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.7 mEq/L
   12 mg/dL
   102 mEq/L
   134 mEq/L
   22.1 %
   4.7 K/uL
        [image002.jpg]
                             [**2189-2-3**]  12:37 PM
                             [**2189-2-3**]  05:32 PM
                             [**2189-2-3**]  05:46 PM
                             [**2189-2-4**]  12:11 AM
                             [**2189-2-4**]  12:23 AM
                             [**2189-2-4**]  02:34 AM
                             [**2189-2-4**]  05:26 AM
                             [**2189-2-4**]  05:52 AM
                             [**2189-2-4**]  11:57 AM
                             [**2189-2-4**]  12:27 PM
   WBC
   6.5
   4.7
   Hct
   22.1
   22.1
   22.1
   Plt
   160
   130
   Cr
   0.9
   0.7
   TCO2
   25
   24
   25
   25
   26
   26
   Glucose
   104
   113
   96
   133
   Other labs: PT / PTT / INR:11.7/33.6/1.0, CK / CKMB /
   Troponin-T:37/6/0.34, ALT / AST:17/22, Alk Phos / T Bili:184/1.7,
   Amylase / Lipase:34/27, Differential-Neuts:80.3 %, Band:2.0 %,
   Lymph:14.3 %, Mono:3.6 %, Eos:1.8 %, Fibrinogen:514 mg/dL, Lactic
   Acid:1.8 mmol/L, Albumin:1.5 g/dL, LDH:298 IU/L, Ca++:7.0 mg/dL,
   Mg++:1.7 mg/dL, PO4:1.4 mg/dL
   Assessment and Plan
 ANEMIA, OTHER
 SHOCK, SEPTIC
 OLIGURIA/ANURIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 TACHYCARDIA, OTHER
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 .H/O FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Assessment and Plan
   75F dementia / schizophrenia admitted with biliary sepsis c/b septic
   shock, ARF, improving on antibiotics, with PCT biliary drain, on CVVH
   and amio for SVT.
Bilary sepsis c/b retained stone: Improvement in cholestatic rise of
   LFTs. Patient has been followed by GI and Surgery, who are deferring
   further intervention for stone removal at this time.  Patient will need
   outpatient followup.  PTC drain currently in place.
   - Per ERCP: at this time will defer stone removal within the next two
   months
   - Per surgery: will keep as an external drain and possibly drain study
   at later date.  Patient is high risk intraoperative candidate, so drain
   conversion to internal drain and ccy will be defered at this time.
   .
 ANEMIA: Microcytic, h/o PUD.
   - On [**Hospital1 **] PPI
   - Hct stable
   - Guaic stools
   - Active T/S
   - Transfuse hct<21
   - [**Hospital1 7**] hct
 SHOCK, SEPTIC: [**2-3**] biliary sepsis from retained stone. Stone unable
   to be removed by ERCP. On Meropenem and Linezolid.  Currently on day 6
   of linezolid for VRE and day 8 of meropenem for E coli bacteremia.
   Repeat blood cx have had no growth to date.
   - C Diff negative, d/c flagyl
   - Fungal culture negative
   - Continue linezolid/meropenem for total 14 day course; can be dosed w/
   HD (see below)
 OLIGURIA/ANURIA: Patient remains anuric, likely secondary to ATN in
   the setting of sepsis and poor forward flow.
   - Currently on CVVH
   - Will likely need HD, discuss with renal
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]): s/p Extubation. Patient
   doing well.
   - Continue to monitor respiratory status
 TACHYCARDIA, OTHER: SVT, now in NSR
   - Continue amio
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
   - EF 60%, stable
 ALTERED MENTAL STATUS (NOT DELIRIUM): Resolved. Likely multifactorial
   with toxic metabolic in the setting of sepsis, retained sedatives in
   the setting of renal and ?hepatic faillure and hypercapnea in the
   setting of respiratory faillure,  also with elevated ammonia concerning
   for hepatic encephalopathy. Head CT WNL
   - Have restarted abilify
   - Will continue to hold SSRI while on linezolid
   # Coagulopathy:  Resolved.
   # COPD:
   - serial CXR
   - nebulizers prn
   - restart Advair
   #  DM2
   - insulin SS
   ICU Care
   Nutrition: Advance diet as tolerated
   Nutren Pulmonary (Full) - [**2189-2-3**] 04:18 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2189-1-28**] 02:37 AM
   Multi Lumen - [**2189-1-28**] 10:24 PM
   Dialysis Catheter - [**2189-1-30**] 06:34 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Daughter [**Name (NI) **] (HCP) [**Telephone/Fax (1) 12841**]
    Comments:
   Code status: Full Code
   Disposition:ICU

2189-02-05 07:41:00 Physician Resident Progress Note
Chief Complaint: biliary sepsis
   24 Hour Events:
   - per [**Doctor First Name 213**]: keep external drain (later convert to internal w/ drain
   study, but not in acute setting)
   - per ERCP: stone removal at later time (weeks to months)
   - per renal: CVVH today, HD tomorrow
   - picc order in, not done
   negative 5L yesterday and maintained MAP 70s not on pressors!
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   History obtained from [**Hospital 15**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2189-2-4**] 08:00 PM
   Linezolid - [**2189-2-4**] 10:10 PM
   Infusions:
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2189-2-5**] 12:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Pain: [**3-5**] Mild
   Pain location: abdominal
   Flowsheet Data as of  [**2189-2-5**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**91**] AM
   Tmax: 35.6
C (96
   Tcurrent: 35.1
C (95.1
   HR: 67 (63 - 75) bpm
   BP: 111/48(71) {91/40(57) - 135/56(81)} mmHg
   RR: 26 (15 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84.3 kg (admission): 96.6 kg
   Height: 63 Inch
    CVP: 7 (6 - 18)mmHg
   Total In:
                                                                  8,710 mL
                                                                  2,127 mL
   PO:
                                                                     30 mL
   TF:
   IVF:
                                                                  8,135 mL
                                                                  2,027 mL
   Blood products:
   Total out:
                                                                 13,862 mL
                                                                  3,982 mL
   Urine:
                                                                     98 mL
                                                                     25 mL
   NG:
   Stool:
   Drains:
                                                                    325 mL
                                                                    175 mL
   Balance:
                                                                 -5,152 mL
                                                                 -1,855 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.49/33/80.[**Numeric Identifier 176**]/22/2
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Tender: mild, diffuse, Obese
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   144 K/uL
   7.8 g/dL
   111 mg/dL
   0.6 mg/dL
   22 mEq/L
   3.9 mEq/L
   7 mg/dL
   103 mEq/L
   136 mEq/L
   23.6 %
   5.1 K/uL
        [image002.jpg]
                             [**2189-2-4**]  05:26 AM
                             [**2189-2-4**]  05:52 AM
                             [**2189-2-4**]  11:57 AM
                             [**2189-2-4**]  12:27 PM
                             [**2189-2-4**]  05:27 PM
                             [**2189-2-4**]  05:49 PM
                             [**2189-2-5**]  12:12 AM
                             [**2189-2-5**]  12:45 AM
                             [**2189-2-5**]  04:31 AM
                             [**2189-2-5**]  04:58 AM
   WBC
   4.7
   5.1
   Hct
   22.1
   23.6
   Plt
   130
   144
   Cr
   0.7
   0.7
   0.6
   TCO2
   26
   26
   25
   26
   26
   Glucose
   96
   133
   113
   133
   111
   Other labs: PT / PTT / INR:11.7/33.6/1.0, CK / CKMB /
   Troponin-T:37/6/0.34, ALT / AST:18/22, Alk Phos / T Bili:198/1.6,
   Amylase / Lipase:34/27, Differential-Neuts:80.3 %, Band:2.0 %,
   Lymph:14.3 %, Mono:3.6 %, Eos:1.8 %, Fibrinogen:514 mg/dL, Lactic
   Acid:1.8 mmol/L, Albumin:1.7 g/dL, LDH:305 IU/L, Ca++:7.3 mg/dL,
   Mg++:1.8 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
 ANEMIA, OTHER
 SHOCK, SEPTIC
 OLIGURIA/ANURIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 TACHYCARDIA, OTHER
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 .H/O FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 LIVER FUNCTION ABNORMALITIES
 .H/O PSYCHIATRIC DISEASE, OTHER (INCLUDING SCHIZOPHRENIA, PERSONALITY
   DISORDERS)
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   75F dementia / schizophrenia admitted with biliary sepsis c/b septic
   shock, ARF, improving on antibiotics, with PCT biliary drain, on CVVH
   and amio for SVT.
Bilary sepsis c/b retained stone: Improvement in cholestatic rise of
   LFTs. Patient has been followed by GI and Surgery, who are deferring
   further intervention for stone removal at this time.  Patient will need
   outpatient followup.  PTC drain currently in place.
   - Per ERCP: at this time will defer stone removal within the next two
   months
   - Per surgery: will keep as an external drain and possibly drain study
   at later date.  Patient is high risk intraoperative candidate, so drain
   conversion to internal drain and ccy will be defered at this time.
   .
 ANEMIA: Microcytic, h/o PUD.
   - On [**Hospital1 **] PPI
   - Hct stable
   - Guaic stools
   - Active T/S
   - Transfuse hct<21
   - [**Hospital1 7**] hct
 SHOCK, SEPTIC: [**2-3**] biliary sepsis from retained stone. Stone unable
   to be removed by ERCP. On Meropenem and Linezolid.  Currently on day 6
   of linezolid for VRE and day 8 of meropenem for E coli bacteremia.
   Repeat blood cx have had no growth to date.
   - C Diff negative, d/c flagyl
   - Fungal culture negative
   - Continue linezolid/meropenem for total 14 day course; can be dosed w/
   HD (see below)
 OLIGURIA/ANURIA: Patient remains anuric, likely secondary to ATN in
   the setting of sepsis and poor forward flow.
   - Currently on CVVH
   - Will likely need HD, discuss with renal
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]): s/p Extubation. Patient
   doing well.
   - Continue to monitor respiratory status
 TACHYCARDIA, OTHER: SVT, now in NSR
   - Continue amio
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
   - EF 60%, stable
 ALTERED MENTAL STATUS (NOT DELIRIUM): Resolved. Likely multifactorial
   with toxic metabolic in the setting of sepsis, retained sedatives in
   the setting of renal and ?hepatic faillure and hypercapnea in the
   setting of respiratory faillure,  also with elevated ammonia concerning
   for hepatic encephalopathy. Head CT WNL
   - Have restarted abilify
   - Will continue to hold SSRI while on linezolid
   # Coagulopathy:  Resolved.
   # COPD:
   - serial CXR
   - nebulizers prn
   - restart Advair
   #  DM2
   - insulin SS
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2189-1-28**] 02:37 AM
   Multi Lumen - [**2189-1-28**] 10:24 PM
   Dialysis Catheter - [**2189-1-30**] 06:34 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU